2162-05-17 07:26:00 Physician Resident Progress Note
Chief Complaint: PE, SOB
   24 Hour Events:
 INVASIVE VENTILATION - START [**2162-5-16**] 04:25 PM
 ULTRASOUND - At [**2162-5-16**] 05:21 PM
   le u/s.
   - IVC filter placed by IR
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-16**] 06:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-17**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 115 (103 - 116) bpm
   BP: 96/68(74) {89/63(69) - 129/86(95)} mmHg
   RR: 21 (17 - 25) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,116 mL
                                                                  1,282 mL
   PO:
             TF:
   IVF:
                                                                  3,116 mL
                                                                  1,282 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                    298 mL
   Urine:
                                                                    285 mL
                                                                    298 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,831 mL
                                                                    984 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   Plateau: 10 cmH2O
   SpO2: 90%
   ABG: 7.36/43/53/20/-1
   Ve: 11.8 L/min
   PaO2 / FiO2: 76
   Physical Examination
   GEN:  intubated, sedated
   HEENT; no JVD, no plethora, no facial swelling
   RESP: CTAB
   CVS: RRR, no MRG
   ABD: soft, NT/ND, no angiomata, no caput, no HSM
   EXT: no calf edema or swelling, no palmar erythema
   Labs / Radiology
   171 K/uL
   10.3 g/dL
   243 mg/dL
   1.0 mg/dL
   20 mEq/L
   5.2 mEq/L
   13 mg/dL
   114 mEq/L
   138 mEq/L
   32.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2162-5-16**]  04:36 PM
                             [**2162-5-16**]  05:16 PM
                             [**2162-5-16**]  06:22 PM
                             [**2162-5-17**]  04:09 AM
   WBC
   4.4
   8.2
   Hct
   31.2
   32.2
   Plt
   147
   171
   Cr
   1.0
   1.0
   TropT
   0.05
   TCO2
   25
   Glucose
   87
   243
   Other labs: PT / PTT / INR:13.5/97.1/1.2, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:18/30, Alk Phos / T Bili:55/0.4,
   Albumin:2.2 g/dL, Ca++:6.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   [**5-16**]: LENI:
   Echogenic material expanding the lumen of the right popliteal vein,
   consistent with acute, occlusive thrombus. Other deep veins on the
   right are
   patent. Echogenic material more peripherally within the left popliteal
   vein
   could represent more chronic thrombus, and is nonocclusive. Other deep
   veins
   on the left are patent. Bilaterally, groin veins are patent.
   [**5-16**] ECHO: Due to suboptimal technical quality, a focal wall motion
   abnormality cannot be fully excluded. Overall left ventricular systolic
   function appears normal (LVEF>55%). The right ventricular cavity is
   moderately dilated with moderate global free wall hypokinesis. There is
   no pericardial effusion.
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
   67 year old alcoholic with recent GIB, hx DVT's with multifocal PE's.
   .
   # PE's: BP slightly lower on admission - possible [**Month (only) **] in BP after
   sedation- but not unstable. RV strain on echo but no collapse or HD
   compromise. Sinsus tachy on EKG w/o RV strain. Will need to keep
   pre-load up. Patient was intubated for hypoxia. Now s/p IVC filter
   placement
   - heparin gtt
   - monitor BP closely
   - f/u repeat EKG in am
   - cont intubation
   .
   # Alcohol withdrawal
   - versed drip for sedation
   - will need CIWA and SW on extubation
   - daily thiamine and MVI
   .
   # Recent GIB:
   - will need to endocsopy at some point to better elucidate risk for
   rebleeding as he will need anticoagulation
   .
   #) Prophylaxis: PPI, heparin gtt, bowel regimen
   .
   #) FEN: NPO
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition: if prolongued intubation will need TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-5-16**] 04:30 PM
   18 Gauge - [**2162-5-16**] 04:32 PM
   Prophylaxis:
   DVT:  hep gtt
   Stress ulcer:  PPI
   VAP:  yes
   Code status: Full code
   Disposition: ICU

2162-05-17 10:04:00 Physician Attending Progress Note
Chief Complaint: Bilateral PE
   HPI: 67 year old alcoholic with recent GIB, hx DVT's presents with
   multifocal PE's.  Recently stopped coumadin for GIB couple point Hct
   drop.
   Unstable at [**Hospital1 **] needem.  Heprin started BP in ED 118/80, 7.56/28/56
   intubated in ED required versed for sedation, per son drinks a lot of
   Vodka.
   TTE-ED RV strain poor windows.
   Post intubation BP 80/67 increased to mid 90
s with fluid
   24 Hour Events:
 INVASIVE VENTILATION - START [**2162-5-16**] 04:25 PM
 ULTRASOUND - At [**2162-5-16**] 05:21 PM
   le u/s.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-16**] 06:41 PM
   Other medications:
   chlorhex
   colace
   thiamine
   protonix Q12
   Changes to medical and family history:
   See Admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems: intubated.
   Flowsheet Data as of  [**2162-5-17**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 121 (103 - 121) bpm
   BP: 114/77(87) {89/63(69) - 129/86(95)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,116 mL
                                                                  3,387 mL
   PO:
             TF:
   IVF:
                                                                  3,116 mL
                                                                  3,387 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                    398 mL
   Urine:
                                                                    285 mL
                                                                    398 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,831 mL
                                                                  2,989 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   Plateau: 10 cmH2O
   SpO2: 94%
   ABG: 7.32/41/57/22/-4
   Ve: 11.8 L/min
   PaO2 / FiO2: 81
   Physical Examination
   GEN:  intubated, sedated
   HEENT: Pupil pinpoint, no JVD
   RESP: CTAB
   CVS: RRR, no MRG
   ABD: soft, NT/ND
   EXT: +1 bil LE edema
   Neuro: Sedated/intubated PERRL
   Labs / Radiology: CT multifocal PE
s,  Chest portable-pending
   10.3 g/dL
   171 K/uL
   127 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.7 mEq/L
   13 mg/dL
   112 mEq/L
   143 mEq/L
   32.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2162-5-16**]  04:36 PM
                             [**2162-5-16**]  05:16 PM
                             [**2162-5-16**]  06:22 PM
                             [**2162-5-17**]  04:09 AM
                             [**2162-5-17**]  06:10 AM
                             [**2162-5-17**]  07:29 AM
   WBC
   4.4
   8.2
   Hct
   31.2
   32.2
   Plt
   147
   171
   Cr
   1.0
   1.0
   1.1
   TropT
   0.05
   TCO2
   25
   22
   Glucose
   87
   243
   127
   Other labs: PT / PTT / INR:13.5/97.1/1.2, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:24/31, Alk Phos / T Bili:67/0.5, Lactic
   Acid:1.1 mmol/L, Albumin:2.2 g/dL, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   67 year old alcoholic with recent GIB, hx DVT's with multifocal PE's.
   # PE's-Borderline BP
s  and not a surgical candiated.
   -Will discuss with interventional cardiology localized TPA therapy vrs
   lysis.
   -Will check formal TTE
   - Continue heparin gtt
   - monitor BP closely will consider levophed if hypotensive
   - s/p  IVC filter
   - cont intubation
   #Hypotension
   -will continue florinef for now
   # Alcohol withdrawal
   - versed drip for sedation
   - will need CIWA and SW on extubation
   - banana bag now
   - daily thiamine and MVI
   # Recent GIB:
   - will need to endocsopy at some point to better elucidate risk for
   rebleeding as he will need anticoagulation
   - PPI
   #Renal insufficieny
   -Improved
   ICU Care
   Nutrition: Will hold tube feeds until interventional cardiology weighs
   in.
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-5-16**] 04:30 PM
   18 Gauge - [**2162-5-16**] 04:32 PM
   Prophylaxis:
   DVT: hep drip
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   67 year old alcoholic with stage 1 NSCLC, question of Hct drip with
   GIB, hx DVTs, presents with multifocal pulmonary emboli. Unstable at [**Hospital1 **]
   [**Location (un) 250**].  Heparin IV started, BP in ED 118/80, 7.56/28/56. Was
   intubated in ED, sedated with versed. TTE showed RV dilatation but poor
   windows. CT angiogram was reviewed personally and with housestaff.
   Multifocal proximal bilateral pulmonary emboli are evident, though not
   involving main PA. Decision was made not to thrombolyse. Echo this AM
   showed RA clot, therefore PE in transit. Hemodynamics were significant
   for tachycardia. The patient remained intubated with hypoxic
   respiratory failure
 pO2 57 on 70% O2 and peep 8cm. Cardiology consult
   was much appreciated
 they discussed the echo and CT findings with the
   patient
s family and therapeutic options. It was decided with the
   family
s agreement that pt should be thrombolysed. tPA given at
   approximately 3pm. Currently less tachycardic, though BP slightly lower
   also. Fibrinogen decreased from 433 to 81. Heparin will be restarted
   depending on PTT and fibrinogen. Repeat TTE in AM.  Watch for alcohol
   withdrawal, IV folate/thiamine/MVI. Family is updated. Patient is full
   code.
   Pt is critically ill. Total time 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2162-5-17**] 18:41 ------

2162-05-18 08:14:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note bellow.
   Chief Complaint: Bilateral PE
   HPI: 67 year old alcoholic with recent GIB, hx DVT's presents with
   multifocal PE's.  Recently stopped coumadin for GIB secondary couple
   point Hct drop.  Status post lysis on [**5-17**].
   24 Hour Events:
   TTE thrombus in transit in the RA, received lysis with improvement in
   Fio2 and tachycardia.  Hct stable, received 4L NS.  Spike to 101.6.
   Every time he is stimulated he gets HTN 160/90, tachy 120
s and
   shacking
 EKG - At [**2162-5-17**] 08:07 AM
 BLOOD CULTURED - At [**2162-5-17**] 01:00 PM
 SPUTUM CULTURE - At [**2162-5-17**] 01:00 PM
 URINE CULTURE - At [**2162-5-17**] 01:00 PM
 TRANSTHORACIC ECHO - At [**2162-5-17**] 01:30 PM
 BLOOD CULTURED - At [**2162-5-17**] 04:00 PM
 FEVER - 101.6
F - [**2162-5-18**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Midazolam (Versed) - 15 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-18**] 06:00 AM
   Other medications:
   chlorhex
   colace
   thiamine 100mg iv x 3 days
   protonix Q12
   fludrocortisone qday
   folic acid
   MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-18**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.5
C (99.5
   HR: 97 (94 - 121) bpm
   BP: 84/56(63) {82/51(59) - 124/76(84)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,317 mL
                                                                  1,414 mL
   PO:
             TF:
   IVF:
                                                                  7,167 mL
                                                                  1,324 mL
   Blood products:
   Total out:
                                                                  1,013 mL
                                                                    325 mL
   Urine:
                                                                  1,013 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,304 mL
                                                                  1,089 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.29/41/74/20/-6
   Ve: 8.8 L/min
   PaO2 / FiO2: 148
   Physical Examination
   GEN:  intubated, sedated
   HEENT: Pupil pinpoint, no JVD
   RESP: CTAB
   CVS: RRR, no MRG
   ABD: soft, NT/ND
   EXT: +1 bil LE edema
   Neuro: Sedated/intubated PERRL
   Labs / Radiology: Chest port-No focal infiltrates, line and tubes in
   place
   9.6 g/dL
   148 K/uL
   85 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   11 mg/dL
   117 mEq/L
   145 mEq/L
   29.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2162-5-16**]  06:22 PM
                             [**2162-5-17**]  04:09 AM
                             [**2162-5-17**]  06:10 AM
                             [**2162-5-17**]  07:29 AM
                             [**2162-5-17**]  04:44 PM
                             [**2162-5-17**]  05:37 PM
                             [**2162-5-17**]  08:20 PM
                             [**2162-5-18**]  02:15 AM
                             [**2162-5-18**]  05:08 AM
                             [**2162-5-18**]  05:33 AM
   WBC
   4.4
   8.2
   8.2
   Hct
   31.2
   32.2
   30.1
   31.8
   32.3
   29.2
   Plt
   147
   171
   148
   Cr
   1.0
   1.0
   1.1
   1.0
   TropT
   0.05
   0.03
   TCO2
   22
   21
   Glucose
   87
   243
   127
   85
   Other labs: PT / PTT / INR:15.3/74.1/1.3, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:24/31, Alk Phos / T Bili:67/0.5,
   Fibrinogen:75 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.2 g/dL, LDH:336
   IU/L, Ca++:6.2 mg/dL, Mg++:1.4 mg/dL, PO4:2.2 mg/dL
   Micro-
   Sputum-oral flora
   Blood-neg
   Urine negative
   Assessment and Plan
   67 year old alcoholic with recent GIB, hx DVT's with multifocal PE's.
   # PE's-Borderline BP
s  and not a surgical candiated.
   - TPA given yesterday
   -  repeat TTE to evalaute for resolution of clot
   - Continue heparin gtt goal 80-100 PTT
   - monitor BP closely will consider levophed if hypotensive
   - s/p  IVC filter
   #Fevers
   -+ Blood cx gram + cocci unclear if from peripheral IV or true
   bactermia
   -+C.Diff
   -Will treat with vanc/flagy and repeat blood cx.
   -Add on differential
   #Respiratory-
   -Wean sedation
   -Titrate Fi02 by sat and will change to PS when able to breath
   #Hypotension
   -will continue florinef for now
   # Alcohol withdrawal
   - versed drip for sedation
   - will need CIWA and SW on extubation
   - banana bag now
   - daily thiamine and MVI
   # Recent GIB:
   - will need to endocsopy at some point to better elucidate risk for
   rebleeding as he will need anticoagulation
   - PPI
   -F/u Hcts [**Hospital1 **]
   #Renal insufficieny
   -Improved
   ICU Care
   Nutrition: Will start tube feeds
   Glycemic Control:
   Lines: Will consider placing picc line
   18 Gauge - [**2162-5-16**] 04:32 PM
   20 Gauge - [**2162-5-17**] 03:30 PM
   Prophylaxis:
   DVT: Heprin
   Stress ulcer: PPI
   VAP: Chlorhex/HOD 30 degrees
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   67 year old alcoholic with stage 1 NSCLC, question of Hct drip with
   GIB, hx DVTs, presents with multifocal pulmonary emboli. Unstable at [**Hospital1 **]
   [**Location (un) 250**].  Heparin IV started, BP in ED 118/80, 7.56/28/56. Was
   intubated in ED, sedated with versed. TTE showed RV dilatation but poor
   windows. CT angiogram was reviewed personally and with housestaff.
   Multifocal proximal bilateral pulmonary emboli are evident, though not
   involving main PA. Decision was made not to thrombolyse. Echo this AM
   showed RA clot, therefore PE in transit. Hemodynamics were significant
   for tachycardia. The patient remained intubated with hypoxic
   respiratory failure
 pO2 57 on 70% O2 and peep 8cm. Cardiology consult
   was much appreciated
 they discussed the echo and CT findings with the
   patient
s family and therapeutic options. It was decided with the
   family
s agreement that pt should be thrombolysed.
   Overnight, spiked to 101.6, cultured. GPC in clusters from
 bottles
   unclear from where this was drawn, started on IV Vancomycin. Also now
   positive for c diff. Started on Flagyl PO.  6 L positive. Oxygenation
   improved, now PSV 10/5, 40%, sats 95%. Echo today
 report states
   right ventricular cavity is dilated with depressed free wall
   contractility. The interatrial septum is markedly thickened around the
   fossa ovale secondary to lipomatous hypertrophy.
   No active bleeding except for some oral blood from suctioning. MAP 66,
   HR 106. Only signs of possible alcohol withdrawal is shaking when being
   turned. Sedation being weaned. Fibrinogen decreased from 433 to 75.
   Heparin will be restarted depending on PTT and fibrinogen. Watch for
   alcohol withdrawal, IV folate/thiamine/MVI. F/u on blood cultures.
   Patient is full code.
   Pt is critically ill. Total time 36 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2162-5-18**] 15:58 ------

2162-05-19 10:38:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note bellow.
   Chief Complaint: Bilateral PE
   HPI: 67 year old alcoholic with recent GIB, hx DVT's presents with
   multifocal PE's.  Recently stopped coumadin for GIB secondary couple
   point Hct drop.  Status post lysis on [**5-17**].
   24 Hour Events:
   Moderate tan secretions.
   C. Diff +
   Gram+ cocci in blood cx unclear if drawn from peripheral IV.
   Fibrinogen improved, on IV heparin
 TRANSTHORACIC ECHO - At [**2162-5-18**] 11:00 AM-Continued RV dysfunction
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   #2 Metronidazole - [**2162-5-19**] 06:08 AM
   #2 Vancomycin - [**2162-5-19**] 08:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Heparin Sodium - 1,200 units/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-19**] 06:35 AM
   Other medications:
   chlorhex
   colace
   thiamine last day
   protonix Q12
   fludrocortisone qday
   folic acid
   MVI
   Changes to medical and family history:
   no changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Intubated
   Flowsheet Data as of  [**2162-5-19**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.2
   HR: 116 (103 - 131) bpm
   BP: 108/61(72) {75/48(53) - 124/80(85)} mmHg
   RR: 26 (11 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  3,087 mL
                                                                  1,276 mL
   PO:
             TF:
                                                                    120 mL
                                                                    410 mL
   IVF:
                                                                  2,407 mL
                                                                    746 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    525 mL
   Urine:
                                                                    975 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,112 mL
                                                                    751 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (540 - 747) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 15 cmH2O
   SpO2: 94%
   ABG:pending
   Ve: 16.1 L/min
   Physical Examination
   GEN:  intubated, sedate, opens eyes to stimulation, mild tremor (this
   was during sedation hold)
   HEENT: Pupil pinpoint, no JVD
   RESP: right lung clear left with bronchial BS at left base
   CVS: Tachy, no MRG
   ABD: soft, NT/ND
   EXT: +2 bil LE edema
   Neuro: Sedated/intubated PERRL
   Labs / Radiology:  Line tubes in place, loss of left diaphragm and RLL
   ? Infiltrate
   10.8 g/dL
   172 K/uL
   124 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.2 mEq/L
   8 mg/dL
   113 mEq/L
   141 mEq/L
   32.3 %
   8.4 K/uL
        [image002.jpg]
   Micro-
   Sputum-2+ sparce oral flora
   Blood-gram = GPC
 pending speciation
   Urine negative
   C.Diff-+
                             [**2162-5-17**]  06:10 AM
                             [**2162-5-17**]  07:29 AM
                             [**2162-5-17**]  04:44 PM
                             [**2162-5-17**]  05:37 PM
                             [**2162-5-17**]  08:20 PM
                             [**2162-5-18**]  02:15 AM
                             [**2162-5-18**]  05:08 AM
                             [**2162-5-18**]  05:33 AM
                             [**2162-5-18**]  02:36 PM
                             [**2162-5-19**]  05:38 AM
   WBC
   8.2
   8.4
   Hct
   30.1
   31.8
   32.3
   29.2
   31.9
   32.3
   Plt
   148
   172
   Cr
   1.1
   1.0
   1.0
   TropT
   0.05
   0.03
   TCO2
   22
   21
   Glucose
   127
   85
   124
   Other labs: PT / PTT / INR:14.8/88.3/1.3, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:24/31, Alk Phos / T Bili:67/0.5,
   Differential-Neuts:79.7 %, Lymph:12.9 %, Mono:5.4 %, Eos:1.8 %,
   Fibrinogen:209 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:2.2 g/dL, LDH:336
   IU/L, Ca++:6.8 mg/dL, Mg++:1.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   67 year old alcoholic with recent GIB, hx DVT's with multifocal PE's,
   s/p thrombolysis on [**5-17**].
   # PE's-Borderline BP
s  and not a surgical candidate.
   - TPA given
   - Continue heparin gtt goal 80-100 PTT
   - monitor BP closely will consider levophed if hypotensive
   - s/p  IVC filter
   #Fevers
   -+ Blood cx gram + cocci unclear if from peripheral IV or true
   bacteremia
   -+C.Diff  2 week treament or 3 if + staph bacteremia.
   -Will continue vanc/flagyl and repeat blood cx and sputum today. If
   gram stain + for gram neg rods or fever, will add tx for VAP.
   #Respiratory-
   -Wean sedation, daily SBT
   -Titrate Fi02 by sat and will change to PS when able to breath
   #Hypotension
   -will continue florinef for now
   # Alcohol withdrawal
   - versed drip for sedation will hold versed restart 20% when starts to
   wake up or restart for change in vitals.
   - will need CIWA and SW on extubation
   - banana bag now
   - daily thiamine and MVI
   # Recent GIB:
   - will need to have scope at some point to evaluate risk for rebleeding
   as he will need anticoagulation
   - PPI
   - F/u Hcts [**Hospital1 **]
   #Renal insufficiency
   -Improved
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-19**] 09:51 AM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-5-16**] 04:32 PM
   20 Gauge - [**2162-5-17**] 03:30 PM
   Prophylaxis:
   DVT: hep Sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, patient is critically ill
   Total time spent: 32 minutes

2162-05-20 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2162-5-19**] 06:17 PM
 ARTERIAL LINE - START [**2162-5-19**] 08:53 PM
 MULTI LUMEN - START [**2162-5-19**] 10:35 PM
 FEVER - 101.3
F - [**2162-5-19**] 08:00 PM
   [**5-19**]
   - spiking fevers
   - sputum with GNR, started on Zosyn
   - BP dropped to SBP high 70's/low 80's, MAP's 50's
   - central line placed, a-line placed
   - started on a small dose of levophed
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2162-5-19**] 06:08 AM
   Vancomycin - [**2162-5-19**] 08:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-20**] 04:32 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Heparin Sodium - [**2162-5-19**] 12:44 PM
   Pantoprazole (Protonix) - [**2162-5-20**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-20**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.8
C (98.2
   HR: 103 (77 - 131) bpm
   BP: 119/64(83) {74/47(57) - 154/82(107)} mmHg
   RR: 22 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 27 (7 - 27)mmHg
   Total In:
                                                                  6,574 mL
                                                                    911 mL
   PO:
   TF:
                                                                    728 mL
                                                                    416 mL
   IVF:
                                                                  5,646 mL
                                                                    416 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    760 mL
   Urine:
                                                                  1,095 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,479 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 533 (533 - 550) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.39/38/74/20/-1
   Ve: 10.1 L/min
   PaO2 / FiO2: 185
   Physical Examination
   GEN:  intubated, sedated
   HEENT: no JVD, no plethora, no facial swelling
   RESP: CTAB anteriorly
   CVS: tachycardic, regular, no MRG
   ABD: soft, NT/ND, no angiomata, no caput, no HSM
   EXT: 2+ edema bilaterally
   Labs / Radiology
   194 K/uL
   11.2 g/dL
   108 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.6 mEq/L
   6 mg/dL
   115 mEq/L
   140 mEq/L
   34.2 %
   10.1 K/uL
        [image002.jpg]
                             [**2162-5-18**]  05:08 AM
                             [**2162-5-18**]  05:33 AM
                             [**2162-5-18**]  02:36 PM
                             [**2162-5-19**]  05:38 AM
                             [**2162-5-19**]  11:56 AM
                             [**2162-5-19**]  02:08 PM
                             [**2162-5-19**]  04:41 PM
                             [**2162-5-19**]  08:49 PM
                             [**2162-5-20**]  03:54 AM
                             [**2162-5-20**]  05:54 AM
   WBC
   8.2
   8.4
   10.2
   10.1
   Hct
   29.2
   31.9
   32.3
   33.5
   34.2
   Plt
   148
   172
   191
   194
   Cr
   1.0
   1.0
   1.0
   0.9
   TCO2
   21
   25
   24
   23
   24
   Glucose
   85
   124
   117
   108
   Other labs: PT / PTT / INR:14.1/114.4/1.2, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:24/31, Alk Phos / T Bili:67/0.5,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:336
   IU/L, Ca++:6.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: Multiple Blood, Urine, and Sputum Cx
   pending
   Microbiology: Sputum Cx [**2162-5-17**]:
      GRAM STAIN (Final [**2162-5-17**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD): MULTIPLE ORGANISMS CONSISTENT WITH
   OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Final [**2162-5-19**]):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S). RARE GROWTH.
         GRAM NEGATIVE ROD #2. SPARSE GROWTH.
   Sputum Cx [**2162-5-19**]:
      GRAM STAIN (Final [**2162-5-19**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CHAINS.
   Sputum Cx [**2162-5-19**]:
      GRAM STAIN (Final [**2162-5-19**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 PULMONARY EMBOLISM (PE), ACUTE
   67-year-old man w/ EtOH abuse, recent GIB, h/o DVTs, p/w multifocal
   PEs, now septic.
   # Sepsis
 Pt spiking fevers, tachycardic, and hypotensive yesterday
   but without elevation in WBC. Has
 bottles blood Cx growing CoNS,
   sputum growing multiple GNRs, and stool C.diff positive. Did have
   concerning infiltrate on CXR concerning for VAP. Currently on Vanc,
   Zosyn, and Flagyl. Diff today with 81% PMNs.
   - cont broad spectrum Abx: Vanc (day 2), Zosyn (day 1), Flagyl (day 2)
   - consider adding PO Vanc
   - f/u all culture data
   - surveillance blood and sputum cultures
    - IVF boluses PRN hypotension, consider Levophed for pressor support
   # PEs - On admission pt w/ borderline BPs and considered not a surgical
   candidate. Progressively developed worsening tachycardia and hypoxia.
   Formal TTE and Cardiology consult --> TPA for lysis on [**5-17**] with
   improvement of HR and SaO2. Repeat TTE yesterday shows continued
   depressed RV function; however, right ventricular abnl is now better
   characterized as limpoma rather than clot. No evidence of bleeding.
   - appreciate cardiology involvement, s/p lysis by TPA
   - continue heparin gtt, currently therapeutic, goal 80-100
   - s/p IVC filter
   - cont to wean vent depending on sedation and secretions
   # Hypotension - Developed post-lysis w/ TPA. Responsive to IVF.
   Initially thought to be [**2-15**] micro-emboli and expected to improve, but
   now more likely related to underlying infection and fevers
   - cont to monitor BP closely
   - IVF boluses to keep MAP >60
   - Levophed if needed for pressor support
   - continue home Florinef
   # Anemia - Likely dilutional considering pt received 4L PRBCs, but in
   setting of lysis and vague h/o GIB. HCT has now been stable.
   - Guaiac stools
   # Alcohol withdrawal - Significant EtOH history.
   - cont Versed for sedation, but will try to wean off as tolerated
   - daily thiamine / MVI / folate
   - will need CIWA and SW on extubation
   # Recent GIB - Unclear history, per son not significant.
   - PPI
   - consider future endoscopy
   # Renal insufficieny - Improved.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-19**] 10:34 PM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2162-5-16**] 04:32 PM
   Arterial Line - [**2162-5-19**] 08:53 PM
   Multi Lumen - [**2162-5-19**] 10:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2162-05-20 08:14:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Bilateral PE
   HPI: 67 year old alcoholic with recent GIB, hx DVT's presents with
   multifocal PE's.  Recently stopped coumadin for GIB secondary couple
   point Hct drop.  Status post lysis on [**5-17**].
   24 Hour Events:
   Started on Zosyn for suspected VAP
 increased secretions, CXR ? LLL
   infiltrate. Sputum 3+ GNR and 2+ GPC in pairs and chains. Started on
   transient levophed for hypotension.  A line and central line placed.
   Versed decreased. 18 L positive. Tm 101.3 at 8pm last night.
 PAN CULTURE - At [**2162-5-19**] 06:17 PM
 ARTERIAL LINE - START [**2162-5-19**] 08:53 PM
 MULTI LUMEN - START [**2162-5-19**] 10:35 PM
 FEVER - 101.3
F - [**2162-5-19**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2162-5-19**] 06:08 AM
   Day #3Vancomycin - [**2162-5-19**] 08:46 PM
   Day #2 Piperacillin/Tazobactam (Zosyn) - [**2162-5-20**] 04:32 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Heparin Sodium - [**2162-5-19**] 12:44 PM
   Pantoprazole (Protonix) - [**2162-5-20**] 06:09 AM
   Other medications:
   chlorhex
   colace
   thiamine
   protonix Q12
   fludrocortisone qday
   folic acid
   MVI
   Changes to medical and family history:
   Unchanged
 see initial history
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-20**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.8
C (98.2
   HR: 103 (77 - 129) bpm
   BP: 119/64(83) {74/47(57) - 154/82(107)} mmHg
   RR: 22 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 12 (7 - 27)mmHg
   Total In:
                                                                  6,574 mL
                                                                    944 mL
   PO:
   TF:
                                                                    728 mL
                                                                    428 mL
   IVF:
                                                                  5,646 mL
                                                                    435 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    760 mL
   Urine:
                                                                  1,095 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,479 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 533 (533 - 533) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.39/38/74/20/-1
   Ve: 10.1 L/min
   PaO2 / FiO2: 185
   Physical Examination
   GEN:  intubated, sedate, opens eyes to stimulation,  tremor decreased
   HEENT: Pupil pinpoint,  JVD elevated
   RESP: right lung clear left with bronchial BS at left base
   CVS: Tachy, no MRG
   ABD: soft, NT/ND
   EXT: +2 bil LE edema
   Neuro: Sedated/intubated PERRL
   Labs / Radiology: Chest RLL infiltrate
   11.2 g/dL
   194 K/uL
   108 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.6 mEq/L
   6 mg/dL
   115 mEq/L
   140 mEq/L
   34.2 %
   10.1 K/uL
        [image002.jpg]
   Micro-
   Sputum [**5-19**]-Gram neg rods 3+ and Gram 2+ cocci pairs and chains
   Sputum-2+ sparce oral flora
   Blood-gram = GPC
 Coag neg staph
   Urine negative
   C.Diff-+
                             [**2162-5-18**]  05:08 AM
                             [**2162-5-18**]  05:33 AM
                             [**2162-5-18**]  02:36 PM
                             [**2162-5-19**]  05:38 AM
                             [**2162-5-19**]  11:56 AM
                             [**2162-5-19**]  02:08 PM
                             [**2162-5-19**]  04:41 PM
                             [**2162-5-19**]  08:49 PM
                             [**2162-5-20**]  03:54 AM
                             [**2162-5-20**]  05:54 AM
   WBC
   8.2
   8.4
   10.2
   10.1
   Hct
   29.2
   31.9
   32.3
   33.5
   34.2
   Plt
   148
   172
   191
   194
   Cr
   1.0
   1.0
   1.0
   0.9
   TCO2
   21
   25
   24
   23
   24
   Glucose
   85
   124
   117
   108
   Other labs: PT / PTT / INR:14.1/114.4/1.2, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:24/31, Alk Phos / T Bili:67/0.5,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:336
   IU/L, Ca++:6.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   67 year old alcoholic with recent GIB, hx DVT's with multifocal PE's,
   s/p thrombolysis on [**5-17**].
   # PE's-
   - TPA given
   - Continue heparin gtt goal 80-100 PTT
   - monitor BP closely will consider levophed if hypotensive
   - s/p  IVC filter
   #Fevers
   -+C.Diff  2 week treament will add PO vanc given his clinical status
   -Will continue tx for VAP with Vanc/Zosyn
   -Once cx final [**First Name8 (NamePattern2) **] [**Last Name (un) 7147**] therapy plan 8 day course.
   #Acute respiratory failure
   -Wean sedation, daily SBT
   -Titrate Fi02 by sat and will change to PS when able to breath
   #Hypotension
   -will continue florinef for now
   -MAP 65 may need transient pressors.
   # Alcohol withdrawal
   - versed drip for sedation will hold versed restart 20% when starts to
   wake up or restart for change in vitals.
   - will need CIWA and SW on extubation
   - banana bag now
   - daily thiamine and MVI
   # Recent GIB:
   - will need to have scope at some point to evaluate risk for rebleeding
   as he will need anticoagulation
   - PPI
   - F/u Hcts [**Hospital1 **]
   #Renal insufficiency
   -Improved
   -Volume status as long as BP tolerates will consider gentle diuresis
   Addendum: Currently being treated for VAP and will need to tailor Abx
   by culture. Will switch sedation to Propofol and do SBT in AM.
   Reportedly has less ETT secretions. Fever last night due to VAP or
   other infection. Zosyn was started yesterday so VAP should start to
   clear. Will f/u on cultures. If he spikes, consider adding another
   [**Doctor Last Name **] for pseudomonas. Diarrhea is improving. Continue treatment for
   cdiff.
   He remains critically ill. 35 minutes.
   ICU Care
   Nutrition: Tube feeds start
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-5-16**] 04:32 PM
   Arterial Line - [**2162-5-19**] 08:53 PM
   Multi Lumen - [**2162-5-19**] 10:35 PM
   Prophylaxis:
   DVT: Heprin drip
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code, patient is critically ill.
   Disposition : ICU
   Total time spent: 35 minutes

2162-05-21 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**5-20**]
   - low grade temp 100.6 during the day
   - started lasix gtt with very good UOP
   - did not require levophed
   - fent/versed gtt weaned off and still required PRN fent boluses
   overnight which improved his tachycardia. He did not need propofol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2162-5-19**] 06:08 AM
   Vancomycin - [**2162-5-20**] 09:23 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-20**] 08:00 PM
   Piperacillin - [**2162-5-21**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Fentanyl - [**2162-5-20**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-21**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100
   HR: 118 (102 - 130) bpm
   BP: 147/80(103) {79/51(56) - 147/88(103)} mmHg
   RR: 30 (12 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 15 (8 - 17)mmHg
   Total In:
                                                                  3,807 mL
                                                                  1,114 mL
   PO:
   TF:
                                                                  1,581 mL
                                                                    536 mL
   IVF:
                                                                  1,586 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                  4,010 mL
                                                                  1,540 mL
   Urine:
                                                                  3,510 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -203 mL
                                                                   -426 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 285 (285 - 285) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 23 cmH2O
   Plateau: 15 cmH2O
   SpO2: 95%
   ABG: 7.48/34/108/23/2
   Ve: 9.5 L/min
   PaO2 / FiO2: 270
   Physical Examination
   GEN:  intubated, sedated
   HEENT: no JVD
   RESP: CTAB anteriorly
   CVS: RRR, nl S1-S2, no MRG
   ABD: +BS, soft/NT/ND, no HSM
   EXT: 2+ edema bilaterally, improving
   Labs / Radiology
   178 K/uL
   9.7 g/dL
   182 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.6 mEq/L
   7 mg/dL
   109 mEq/L
   138 mEq/L
   29.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2162-5-19**]  11:56 AM
                             [**2162-5-19**]  02:08 PM
                             [**2162-5-19**]  04:41 PM
                             [**2162-5-19**]  08:49 PM
                             [**2162-5-20**]  03:54 AM
                             [**2162-5-20**]  05:54 AM
                             [**2162-5-20**]  05:12 PM
                             [**2162-5-20**]  10:20 PM
                             [**2162-5-21**]  02:45 AM
                             [**2162-5-21**]  03:00 AM
   WBC
   10.2
   10.1
   9.4
   Hct
   33.5
   34.2
   29.6
   Plt
   191
   194
   178
   Cr
   1.0
   0.9
   0.9
   0.9
   TCO2
   25
   24
   23
   24
   25
   26
   Glucose
   117
   108
   200
   182
   Other labs: PT / PTT / INR:15.0/107.9/1.3, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:24/31, Alk Phos / T Bili:67/0.5,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:336
   IU/L, Ca++:7.0 mg/dL, Mg++:2.2 mg/dL, PO4:0.8 mg/dL
   Microbiology: Sputum Cx growing GNRs x3
   Blood Cx so far NGTD
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 PULMONARY EMBOLISM (PE), ACUTE
   67-year-old man w/ EtOH abuse, recent GIB, h/o DVTs, p/w multifocal
   PEs, now septic.
   # Sepsis
 Pt spiking fevers, tachycardic, and hypotensive yesterday
   but without elevation in WBC. Has
 bottles blood Cx growing CoNS,
   sputum growing multiple GNRs, and stool C.diff positive. Did have
   concerning infiltrate on CXR concerning for VAP. Currently on Vanc,
   Zosyn, and Flagyl. Diff today with 81% PMNs. Now w/ 3 sputum cx all
   growing GNRs.
   - d/c Vanc (day 4),
   - cont Zosyn (day 3), for GNR
   - con tFlagyl (day 4), PO Vanc (day 2) for C.diff
   - f/u all culture data
   - IVF boluses PRN hypotension, consider Levophed for pressor support
   # PEs - On admission pt w/ borderline BPs and considered not a surgical
   candidate. Progressively developed worsening tachycardia and hypoxia.
   Formal TTE and Cardiology consult --> TPA for lysis on [**5-17**] with
   improvement of HR and SaO2. Repeat TTE yesterday shows continued
   depressed RV function; however, right ventricular abnl is now better
   characterized as limpoma rather than clot. No evidence of bleeding.
   Also s/p IVC filter placement.
   - appreciate cardiology involvement, s/p lysis by TPA
   - continue heparin gtt, currently therapeutic, goal 80-100
   - cont to wean vent depending on sedation and secretions
   # Edema - Pt w/ increased edema as he has gotten several IVF boluses
   for his Hypotension. Lasix gtt w/ good effect on UOP, although pt still
   getting quite a bit of fluid in.
   - check for obligate Ins, consider changing some meds to PO rather than
   IV
   - cont Lasix gtt at current rate, increasing may be limited by
   hypotension
   # Hypotension - Developed post-lysis w/ TPA. Responsive to IVF.
   Initially thought to be [**2-15**] micro-emboli and expected to improve, but
   now more likely related to underlying infection and fevers. Transiently
   required pressors, but now off.
   - cont to monitor BP closely
   - IVF boluses to keep MAP >60
   - Levophed if needed for pressor support
   - continue home Florinef
   # Anemia - Likely dilutional considering pt received 4L PRBCs, but in
   setting of lysis and vague h/o GIB. HCT down 32->29. No melena.
   - Guaiac stools
   - recheck HCt
   # Alcohol withdrawal - Significant EtOH history.
   - cont Versed for sedation, but will try to wean off as tolerated
   - daily thiamine / MVI / folate
   - will need CIWA and SW on extubation
   # Unresponive: likely related to Versed in the setting of EtOh abuse;
   however did get lyisi is at risk for intracranial hemorrhage
   - if does not become more responsive in 24hrs, will need head CT
   # Recent GIB - Unclear history, ? significant.
   - PPI
   -  may need endoscopy prior to starting PO anticoagulation, will need
   to discuss with GI
   .
   # Low phos:
   - replete
   - recheck in pm
   - nutrition consult
   # Renal insufficieny - Improved.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-21**] 04:51 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2162-5-19**] 08:53 PM
   Multi Lumen - [**2162-5-19**] 10:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2162-05-21 09:52:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Bilateral PE
   HPI: 67 year old alcoholic with recent GIB, hx DVT's presents with
   multifocal PE's.  Recently stopped coumadin for GIB secondary couple
   point Hct drop.  Status post lysis on [**5-17**]. Concern for RA clot was
   actually lipomatous hypertrophy
   24 Hour Events:
   Low grade fever
   Good urine to lasix drip
   Off sedation required a few fent boluses
   Still secretions but improved. Remains vent dependent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2162-5-19**] 06:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-20**] 08:00 PM
   Piperacillin - [**2162-5-21**] 04:00 AM
   Vancomycin - [**2162-5-21**] 08:18 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Fentanyl - [**2162-5-20**] 07:30 PM
   Other medications:
   Day # 2 Vanc PO
   Day # 4 Flagy PO
   Day # 4 Vanc IV
   Day#  3 Zosyn IV
   chlorhex
   colace
   thiamine
   protonix Q12
   fludrocortisone qday
   folic acid
   MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-21**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 116 (102 - 130) bpm
   BP: 141/101(115) {79/51(56) - 147/101(115)} mmHg
   RR: 21 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 10 (8 - 17)mmHg
   Total In:
                                                                  3,806 mL
                                                                  1,012 mL
   PO:
   TF:
                                                                  1,580 mL
                                                                      8 mL
   IVF:
                                                                  1,586 mL
                                                                    724 mL
   Blood products:
   Total out:
                                                                  4,010 mL
                                                                  3,460 mL
   Urine:
                                                                  3,510 mL
                                                                  3,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -204 mL
                                                                 -2,448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 285 (285 - 285) mL
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 24 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.48/34/108/23/2
   Ve: 11.2 L/min
   PaO2 / FiO2: 270
   Physical Examination
   GEN:  intubated, sedate, opens eyes to stimulation,  tremor decreased
   HEENT: Pupil pinpoint,  JVD elevated
   RESP: right lung clear left with bronchial BS at left base
   CVS: Tachy, no MRG
   ABD: soft, NT/ND
   EXT: +2 bil LE edema improved
   Neuro: Sedated/intubated PERRL, still trys to open eyes
   Labs / Radiology: Chest lines tubes in place RLL infiltrate
   9.7 g/dL
   178 K/uL
   182 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.6 mEq/L
   7 mg/dL
   109 mEq/L
   138 mEq/L
   29.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2162-5-19**]  11:56 AM
                             [**2162-5-19**]  02:08 PM
                             [**2162-5-19**]  04:41 PM
                             [**2162-5-19**]  08:49 PM
                             [**2162-5-20**]  03:54 AM
                             [**2162-5-20**]  05:54 AM
                             [**2162-5-20**]  05:12 PM
                             [**2162-5-20**]  10:20 PM
                             [**2162-5-21**]  02:45 AM
                             [**2162-5-21**]  03:00 AM
   WBC
   10.2
   10.1
   9.4
   Hct
   33.5
   34.2
   29.6
   Plt
   191
   194
   178
   Cr
   1.0
   0.9
   0.9
   0.9
   TCO2
   25
   24
   23
   24
   25
   26
   Glucose
   117
   108
   200
   182
   Other labs: PT / PTT / INR:15.0/107.9/1.3, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:24/31, Alk Phos / T Bili:67/0.5,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:336
   IU/L, Ca++:7.0 mg/dL, Mg++:2.2 mg/dL, PO4:0.8 mg/dL
   Micro-
   Sputum [**5-19**]-Gram neg rods 3+ and Gram 2+ cocci pairs and chains.
   Growing Gram negative rods
   Sputum-2+ sparce oral flora
   Blood-gram = GPC
 Coag neg staph, all repeat cx negative
   Urine negative
   C.Diff-+
   Assessment and Plan
   67 year old alcoholic with recent GIB, hx DVT's with multifocal PE's,
   s/p thrombolysis on [**5-17**].
   # Submassive Pulmonary Emboli
   - TPA given
   - Continue heparin gtt goal 80-100 PTT
   - monitor BP closely will consider levophed if hypotensive
   - s/p  IVC filter
   # MS-Not waking up off sedation suspect secondary to high dose Benzo
   -Will Check CT brain if no improvement given possibility of cerebral
   bleed
 neuro exam is nonfocal.
   #Fevers/VAP/C.Diff
   -+C.Diff  2 week treatment will add PO vanc given his clinical status
   - Will continue tx for VAP with Vanc/Zosyn
   - Once cx final will favor therapy plan 8 day course of Zosyn will d
   vanc
   #Acute respiratory failure
   -Wean sedation, daily SBT
   -Titrate Fi02 by sat and will change to PS
   #Hypotension-resolved
   -will continue fluorinef for now
   -MAP 65 may need transient pressors.
   # Alcohol withdrawal-Improved no signs
   - versed drip off no signs of withdrawl.
   - daily thiamine and MVI
   # Recent GIB:
   - will need to have scope at some point to evaluate risk for rebleeding
   as he will need anticoagulation
   - PPI
   - F/u Hcts [**Hospital1 **]
   #Renal insufficiency
   -Improved
   -Volume status as long as BP tolerates will continue diuresis as he was
   16L positive over his course
   #FEN-Replete lytes correct Phos
   ICU Care
   Nutrition: Tube feeds will discuss adding more phos
   Glycemic Control:
   Lines:
   Arterial Line - [**2162-5-19**] 08:53 PM
   Multi Lumen - [**2162-5-19**] 10:35 PM
   Prophylaxis:
   DVT:  heprin
   Stress ulcer:  PPI
   VAP: Chlorhex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes, patient is critically ill

2162-05-22 07:25:00 Physician Resident Progress Note
Chief Complaint: N/A
   24 Hour Events:
 BLOOD CULTURED - At [**2162-5-21**] 01:00 PM
   one set BC's drawn from A-line and 2nd set drawn from Central line.
 SPUTUM CULTURE - At [**2162-5-21**] 01:00 PM
 FEVER - 101.4
F - [**2162-5-21**] 12:00 PM
   - Vanc d/c'd yesterday
   - Blood Cx sent x2 at 1230pm
   - changed from AC --> PSV
   - got a 500cc NS bolus for hypotension, then resumed Lasix gtt
   - electrolytes repleted
   - per nursing, responding a bit more as well as more
   tachycardic/agitated -> propofol PRN overnight for sedation instead of
   Fentanyl / Versed
   - GI consulted, no endoscopy now,but will scope prior to discharge
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2162-5-21**] 08:18 AM
   Piperacillin - [**2162-5-21**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-22**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Heparin Sodium - [**2162-5-21**] 11:31 PM
   Propofol - [**2162-5-22**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-22**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.9
   HR: 107 (95 - 116) bpm
   BP: 126/74(93) {69/48(56) - 151/101(115)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 14 (5 - 19)mmHg
   Total In:
                                                                  4,067 mL
                                                                  1,334 mL
   PO:
   TF:
                                                                    822 mL
                                                                    516 mL
   IVF:
                                                                  2,385 mL
                                                                    788 mL
   Blood products:
   Total out:
                                                                  5,570 mL
                                                                    735 mL
   Urine:
                                                                  5,570 mL
                                                                    485 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,503 mL
                                                                    599 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 461 (409 - 496) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.47/41/128/25/6
   Ve: 13.4 L/min
   PaO2 / FiO2: 320
   Physical Examination
   GEN:  intubated, sedated, not responding when sedation held- ? raising
   eyebrows when asked to open his eyers
   HEENT: no JVD, PERRLA, left IJ w/o erythema or purulence
   RESP: CTAB anteriorly
   CVS: RRR, nl S1-S2, no MRG
   ABD: +BS, soft/NT/ND, no HSM
   EXT: 3+ edema bilaterally, improving, left a-line clean w/o erythema or
   purulence
   Labs / Radiology
   246 K/uL
   10.7 g/dL
   157 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.5 mEq/L
   9 mg/dL
   105 mEq/L
   139 mEq/L
   32.7 %
   13.0 K/uL
                             [**2162-5-20**]  05:12 PM
                             [**2162-5-20**]  10:20 PM
                             [**2162-5-21**]  02:45 AM
                             [**2162-5-21**]  03:00 AM
                             [**2162-5-21**]  10:16 AM
                             [**2162-5-21**]  04:07 PM
                             [**2162-5-21**]  04:22 PM
                             [**2162-5-21**]  10:28 PM
                             [**2162-5-22**]  04:00 AM
                             [**2162-5-22**]  04:41 AM
   WBC
   9.4
   13.0
   Hct
   29.6
   31.7
   32.7
   Plt
   178
   246
   Cr
   0.9
   0.9
   1.0
   1.0
   0.9
   TCO2
   25
   26
   30
   31
   Glucose
   200
   182
   176
   155
   157
   Other labs: PT / PTT / INR:14.0/86.4/1.2, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:24/31, Alk Phos / T Bili:67/0.5,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:336
   IU/L, Ca++:6.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: pH 7.47/ 41/128
   Microbiology: Sputum :GNR, not yet speciated
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 PULMONARY EMBOLISM (PE), ACUTE
   67-year-old man w/ EtOH abuse, recent GIB, h/o DVTs, p/w multifocal
   PEs, now septic.
   # Sepsis
 Resolving, now normotensive. Pt spiking fevers, tachycardic,
   and hypotensive several days ago but without elevation in WBC. Has
   bottles blood Cx growing CoNS, sputum growing multiple GNRs, and stool
   C.diff positive. Did have = infiltrate on CXR concerning for VAP.
   Currently on Zosyn, and Vanc PO, Flagyl. 3 sputum cx all growing GNRs.
   Still spiking fevers
   - cont Zosyn (day 4), for GNR
   - con tFlagyl (day 5), PO Vanc (day 3) for C.diff
   - f/u all culture data, obtain specation of GNR
   - draw cultures through a-line and CVL lines
   - keep even, no diuresis
   # PEs - On admission pt w/ borderline BPs and considered not a surgical
   candidate. Progressively developed worsening tachycardia and hypoxia.
   Formal TTE and Cardiology consult --> TPA for lysis on [**5-17**] with
   improvement of HR and SaO2. Repeat TTE yesterday shows continued
   depressed RV function; however, right ventricular abnl is now better
   characterized as limpoma rather than clot. No evidence of bleeding.
   Also s/p IVC filter placement.
   - appreciate cardiology involvement, s/p lysis by TPA
   - continue heparin gtt, currently therapeutic, goal 80-100
   - cont to wean vent depending on sedation and secretions
   .
   # VAP: + sputum, fevers and new infiltrate. Had been on Vanc but only
   growing GNR
s in sputum but now
   - cont Zosyn
   - obtain repeat sputum cx
   # Edema - Pt w/ increased edema as he has gotten several IVF boluses
   for his Hypotension. Lasix gtt w/ good effect on UOP, although pt still
   getting quite a bit of fluid in.
   - check for obligate Ins, consider changing some meds to PO rather than
   IV
   -  contlasix gt to keep keep even
   # Hypotension - Developed post-lysis w/ TPA. Responsive to IVF.
   Initially thought to be [**2-15**] micro-emboli and expected to improve, but
   now more likely related to underlying infection and fevers. Transiently
   required pressors, but now off.
   - cont to monitor BP closely
   - keep I/O even
   - continue home Florinef
   - keep I/O even today
   # Anemia - Likely dilutional considering pt received 4L PRBCs, but in
   setting of lysis and vague h/o GIB. HCT down 32->29. No melena.
   - Guaiac stools
   - recheck HCt
   # Alcohol withdrawal - Significant EtOH history.
   - cont propofol for sedation
   - daily thiamine / MVI / folate
   - will need CIWA and SW on extubation
   # Unresponive: likely related to Versed in the setting of EtOh abuse;
   however did get lyisi is at risk for intracranial hemorrhage
   - f/u head CT
   # Recent GIB - Unclear history, ? significant.
   - PPI IV BID
   -  GI consulted, no endoscopy now,but will scope prior to discharge
   .
   # Low phos: resolved
   - replete
   - recheck in pm
   - nutrition consult
   # Renal insufficieny - Improved.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-21**] 07:26 PM 70 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2162-5-19**] 08:53 PM
   Multi Lumen - [**2162-5-19**] 10:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2162-05-22 07:56:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Bilateral PE
   HPI: 67 year old alcoholic with recent GIB, hx DVT's presents with
   multifocal PE's.  Recently stopped coumadin for GIB secondary couple
   point Hct drop.  Status post lysis on [**5-17**] and IVC filter placement.
   Concern for RA clot was actually lipomatous hypertrophy.  Course c/b
   VAP with sputum + for GNR (not speciated); volume overload
 lasix gtt,
   Cdiff +.
   24 Hour Events:
   Mental status remains poor.  RASS -4.  HCT just done.
   HoTN to SBP 70
s yesterday requiring 500cc bolus -> lasix drip
   restarted since.
   RN reports minimal secretions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-22**] 04:00 AM (Day 4)
   Flagyl Po 500 q8 (day 5)
   Vanco PO 125 q6 (day 3)
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Heparin Sodium - [**2162-5-21**] 11:31 PM
   Propofol - [**2162-5-22**] 12:30 AM
   Pantoprazole (Protonix) - [**2162-5-22**] 07:54 AM
   Peridex.
   Other medications:
   Fludricort (for autonomic dysfunction)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-22**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.9
C (100.3
   HR: 107 (95 - 116) bpm
   BP: 126/74(93) {69/48(56) - 151/101(115)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 14 (5 - 19)mmHg
   Total In:
                                                                  4,067 mL
                                                                  1,396 mL
   PO:
   TF:
                                                                    822 mL
                                                                    556 mL
   IVF:
                                                                  2,385 mL
                                                                    810 mL
   Blood products:
   Total out:
                                                                  5,570 mL
                                                                    735 mL
   Urine:
                                                                  5,570 mL
                                                                    485 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,503 mL
                                                                    661 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 461 (409 - 496) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.47/41/128/25/6
   Ve: 13.4 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Neurologic: RASS -4.  PERRLA
   CV: regular s1 s2 no m/r/g
   Lungs: distant BS
   ABD: soft, distended.
   EXT: +3 LE edema.
   Skin: No rashes.
   Labs / Radiology
   10.7 g/dL
   246 K/uL
   157 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.5 mEq/L
   9 mg/dL
   105 mEq/L
   139 mEq/L
   32.7 %
   13.0 K/uL
        [image002.jpg]
                             [**2162-5-20**]  05:12 PM
                             [**2162-5-20**]  10:20 PM
                             [**2162-5-21**]  02:45 AM
                             [**2162-5-21**]  03:00 AM
                             [**2162-5-21**]  10:16 AM
                             [**2162-5-21**]  04:07 PM
                             [**2162-5-21**]  04:22 PM
                             [**2162-5-21**]  10:28 PM
                             [**2162-5-22**]  04:00 AM
                             [**2162-5-22**]  04:41 AM
   WBC
   9.4
   13.0
   Hct
   29.6
   31.7
   32.7
   Plt
   178
   246
   Cr
   0.9
   0.9
   1.0
   1.0
   0.9
   TCO2
   25
   26
   30
   31
   Glucose
   200
   182
   176
   155
   157
   Other labs: PT / PTT / INR:14.0/86.4/1.2, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:24/31, Alk Phos / T Bili:67/0.5,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL, LDH:336
   IU/L, Ca++:6.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOTENSION (NOT SHOCK)
 PULMONARY EMBOLISM (PE), ACUTE
   Assessment and Plan
   67 year old alcoholic with recent GIB, hx DVT's with multifocal PE's,
   s/p thrombolysis on [**5-17**].
   # AMS
   Complicated by sedation, underlying EtOH, possibility of ICH given
   thrombolysis.
   Hold all sedatives.
   # Vent. Dependence- obstacle to extubation is MS at this point.
   # Submassive Pulmonary Emboli
   - TPA given
   - Continue heparin gtt goal 80-100 PTT
   - monitor BP closely will consider levophed if hypotensive
   - s/p  IVC filter
   # MS-Not waking up off sedation suspect secondary to high dose Benzo
   #CV
   Hemodynamically stable and u/o 50-100cc/hr so effective circulation.
   TBB goal even.
   #Fevers/VAP/C.Diff
   -+C.Diff  2 week treatment will add PO vanc given his clinical status
   - Will continue tx for VAP with Vanc/Zosyn
   - Once cx final will favor therapy plan 8 day course of Zosyn will d
   vanc
   #Acute respiratory failure
   -Wean sedation, daily SBT
   -Titrate Fi02 by sat and will change to PS
   # Alcohol withdrawal-Improved no signs
   - versed drip off no signs of withdrawl.
   - daily thiamine and MVI
   # Recent GIB:
   - will need to have scope at some point to evaluate risk for rebleeding
   as he will need anticoagulation
   - PPI
   - F/u Hcts [**Hospital1 **]
   #Renal insufficiency
   -Improved
   -Volume status as long as BP tolerates will continue diuresis as he was
   16L positive over his course
   # GI- tube feeds at goal.
   #FEN-Replete lytes correct Phos.
   #: Fever- send Cx for IJ and aline.
   Lines: RIJ (day 3), Left aline (day 3).
   Family: Son is [**Name (NI) 2193**].
   Dispo: Full code.  MICU.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2162-5-19**] 08:53 PM
   Multi Lumen - [**2162-5-19**] 10:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2162-05-23 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2162-5-22**] 10:07 AM
   BCs from LIJ and aline
 FEVER - 101.3
F - [**2162-5-23**] 12:00 AM
   [**5-22**]:
   - restarted Vanc for GPC in sputum
   - restarted lasix gtt
   - obtain head CT: neg for bleeding
   - sedation held all day until 6pm when pt became tachpnic and
   hypertensive-> propofol restarted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2162-5-21**] 12:00 PM
   Metronidazole - [**2162-5-22**] 09:00 PM
   Vancomycin - [**2162-5-23**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-23**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Heparin Sodium - 1,200 units/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-22**] 07:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-23**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.9
C (98.5
   HR: 98 (98 - 116) bpm
   BP: 97/62(74) {96/61(74) - 158/87(113)} mmHg
   RR: 25 (10 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 9 (4 - 16)mmHg
   Total In:
                                                                  3,256 mL
                                                                  1,095 mL
   PO:
   TF:
                                                                  1,527 mL
                                                                    526 mL
   IVF:
                                                                  1,460 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                  1,530 mL
   Urine:
                                                                  2,235 mL
                                                                  1,530 mL
   NG:
                                                                     15 mL
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    756 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 821 (274 - 821) mL
   PS : 10 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.47/44/103/29/7
   Ve: 8.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   GEN:  intubated, sedated, not responding when sedation held- ? raising
   eyebrows when asked to open his eyers
   HEENT: no JVD, PERRLA, left IJ w/o erythema or purulence
   RESP: CTAB anteriorly
   CVS: RRR, nl S1-S2, no MRG
   ABD: +BS, soft/NT/ND, no HSM
   EXT: 3+ edema bilaterally, improving, left a-line clean w/o erythema or
   purulence
   Labs / Radiology
   270 K/uL
   10.1 g/dL
   143 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   11 mg/dL
   102 mEq/L
   136 mEq/L
   30.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2162-5-21**]  03:00 AM
                             [**2162-5-21**]  10:16 AM
                             [**2162-5-21**]  04:07 PM
                             [**2162-5-21**]  04:22 PM
                             [**2162-5-21**]  10:28 PM
                             [**2162-5-22**]  04:00 AM
                             [**2162-5-22**]  04:41 AM
                             [**2162-5-22**]  12:47 PM
                             [**2162-5-23**]  03:53 AM
                             [**2162-5-23**]  04:37 AM
   WBC
   13.0
   12.9
   Hct
   31.7
   32.7
   30.6
   Plt
   246
   270
   Cr
   1.0
   1.0
   0.9
   0.9
   TCO2
   26
   30
   31
   28
   33
   Glucose
   176
   155
   157
   143
   Other labs: PT / PTT / INR:12.9/90.2/1.1, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:15/27, Alk Phos / T Bili:92/0.3,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:333
   IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR: increased RLL opacity as well as obscuring the left heart
   border. In general appears worse
   Microbiology: Sputum: no speciationnof GNR or GPC
   Blood: NGTD
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 PULMONARY EMBOLISM (PE), ACUTE
   67-year-old man w/ EtOH abuse, recent GIB, h/o DVTs, p/w multifocal
   PEs, now septic.
   # Sepsis
 Resolving, now normotensive. Pt spiking fevers, tachycardic,
   and hypotensive several days ago but without elevation in WBC. Has
   bottles blood Cx growing CoNS, sputum growing multiple GNRs, and stool
   C.diff positive. Did have = infiltrate on CXR concerning for VAP.
   Currently on Zosyn, and Vanc PO, Flagyl. 3 sputum cx all growing GNRs.
   Still spiking fevers
   - cont Zosyn (day 5), for GNR
   - cont Vanc IV (d2) for GPCs
   - cont Flagyl (day 6), PO Vanc (day 4) for C.diff
   - f/u all culture data, obtain specation of GNR/GPCs
   - draw cultures through a-line and CVL lines
   - gentle diuresis to keep even
   # Unresponsive: likely related to Versed in the setting of EtOh abuse;
   however did get lyisi is at risk for intracranial hemorrhage. Head CT
   neg for bleed and he is moving all 4 extremities, so suspect this is
   sedation related. This morning, he is more responsive, following
   commands, but still not opening eyes
   - continue to hold sedation as possible, try PRN fent boluses when
   agitated to see if there is a pain component
   # Hypoxic Resp Failure: Currently unable to extubate due to mental
   status and also has VAP
   - monitor secretions
   - trial extubation this morning as he is following commands, has a good
   cough and pros outweight the cons of extubation
   # VAP: + sputum, fevers and new infiltrate. Sputum growing GNR/GPCs
   - cont Zosyn/Vanc for 8 day course unless grows pseudomonas
   - obtain repeat sputum cx
   # PEs - On admission pt w/ borderline BPs and considered not a surgical
   candidate. Progressively developed worsening tachycardia and hypoxia.
   Formal TTE and Cardiology consult --> TPA for lysis on [**5-17**] with
   improvement of HR and SaO2. Repeat TTE yesterday shows continued
   depressed RV function; however, right ventricular abnl is now better
   characterized as limpoma rather than clot. No evidence of bleeding.
   Also s/p IVC filter placement.
   - appreciate cardiology involvement, s/p lysis by TPA
   - has been on heparin gtt, now will switch lovenox to help minimize
   fluid intake
   - cont to wean vent depending on sedation and secretions
   .
   # Edema - Pt w/ increased edema as he has gotten several IVF boluses
   for his Hypotension. Lasix gtt w/ good effect on UOP, although pt still
   getting quite a bit of fluid in.
   - check for obligate Ins, consider changing some meds to PO rather than
   IV
   - cont lasix gtt to keep keep even
   # Hypotension - Developed post-lysis w/ TPA. Responsive to IVF.
   Initially thought to be [**2-15**] micro-emboli and expected to improve, but
   now more likely related to underlying infection and fevers. Transiently
   required pressors, but now off.
   - cont to monitor BP closely
   - continue home Florinef
   # Anemia - Likely dilutional considering pt received 4L PRBCs, but in
   setting of lysis and vague h/o GIB. HCT down 32->29. No melena.
   - Guaiac stools
   - recheck HCt
   # Alcohol withdrawal - Significant EtOH history.
   - cont propofol for sedation
   - daily thiamine / MVI / folate
   - will need CIWA and SW on extubation
   # Recent GIB - Unclear history, ? significant.
   - PPI IV BID
   -  GI consulted, no endoscopy now,but will scope prior to discharge
   .
   # Low phos: resolved
   - replete
   - recheck in pm
   - nutrition consult
   # Renal insufficieny - Improved.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-23**] 12:23 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2162-5-19**] 08:53 PM
   Multi Lumen - [**2162-5-19**] 10:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   Code status: Full code
   Disposition:ICU

2162-05-23 07:44:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Bilateral PE
   HPI: 67 year old alcoholic with recent GIB, hx DVT's presents with
   multifocal PE's.  Recently stopped coumadin for GIB secondary couple
   point Hct drop.  Status post lysis on [**5-17**] and IVC filter placement.
   Concern for RA clot was actually lipomatous hypertrophy.  Course c/b
   VAP with sputum + for GNR (not speciated); volume overload
 lasix gtt,
   Cdiff +.
   24 Hour Events:
   Sputum + for GPC-> vanco restarted.
   HCt negative for intracranial bleed.
   [**Name8 (MD) 54**] RN increased secretions but coughing them up.
   Now more awake, following commands, passed SBT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2162-5-21**] 12:00 PM
   Metronidazole - [**2162-5-22**] 09:00 PM
   Vancomycin - [**2162-5-23**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-23**] 04:00 AM
   Vanco po 125 q6
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Heparin Sodium - 1,200 units/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-22**] 07:54 AM
   Other medications:
   Fludricort
   Heparin SC
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-23**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.9
C (98.5
   HR: 98 (98 - 116) bpm
   BP: 97/62(74) {96/61(74) - 158/87(113)} mmHg
   RR: 25 (10 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
   CVP: 9 (4 - 16)mmHg
   Total In:
                                                                  3,256 mL
                                                                  1,115 mL
   PO:
   TF:
                                                                  1,527 mL
                                                                    540 mL
   IVF:
                                                                  1,460 mL
                                                                    515 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                  1,530 mL
   Urine:
                                                                  2,235 mL
                                                                  1,530 mL
   NG:
                                                                     15 mL
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    756 mL
                                                                   -415 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 821 (274 - 821) mL
   PS : 10 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.47/44/103/29/7
   Ve: 8.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   270 K/uL
   143 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   11 mg/dL
   102 mEq/L
   136 mEq/L
   30.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2162-5-21**]  03:00 AM
                             [**2162-5-21**]  10:16 AM
                             [**2162-5-21**]  04:07 PM
                             [**2162-5-21**]  04:22 PM
                             [**2162-5-21**]  10:28 PM
                             [**2162-5-22**]  04:00 AM
                             [**2162-5-22**]  04:41 AM
                             [**2162-5-22**]  12:47 PM
                             [**2162-5-23**]  03:53 AM
                             [**2162-5-23**]  04:37 AM
   WBC
   13.0
   12.9
   Hct
   31.7
   32.7
   30.6
   Plt
   246
   270
   Cr
   1.0
   1.0
   0.9
   0.9
   TCO2
   26
   30
   31
   28
   33
   Glucose
   176
   155
   157
   143
   Other labs: PT / PTT / INR:12.9/90.2/1.1, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:15/27, Alk Phos / T Bili:92/0.3,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:333
   IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   67 year old alcoholic with recent GIB, hx DVT's with multifocal PE's,
   s/p thrombolysis on [**5-17**].
   # AMS
   Complicated by sedation, underlying EtOH, possibility of ICH given
   thrombolysis.
   Hold all sedatives.
   MS now improved- following commands.
   # Vent. Dependence- Will go for trial of intubation at this point.  His
   risks of re-intubation include MS (although improved) and VAP- now on
   very broad ABX.
   # Submassive Pulmonary Emboli
   - TPA given
   - Continue heparin gtt goal 80-100 PTT
   - monitor BP closely will consider levophed if hypotensive
   - s/p  IVC filter
   - Transition to lovenox to minimize Ins.
   # MS-Not waking up off sedation suspect secondary to high dose Benzo
   #CV
   Hemodynamically stable and u/o 50-100cc/hr so effective circulation.
   TBB goal negative 500 to 1000cc. Continue lasix gtt.
   #Fevers/VAP/C.Diff
   -Day [**6-27**] on flagyl and PO vanco for cdiff
    - Will continue tx for VAP with Vanc/Zosyn
   - Once cx final will favor therapy plan 8 day course of Zosyn will d
   vanc
   #Acute respiratory failure
   -Wean sedation, daily SBT
   -Titrate Fi02 by sat and will change to PS
   # Alcohol withdrawal-Improved no signs
   - versed drip off no signs of withdrawl.
   - daily thiamine and MVI
   # Recent GIB:
   - will need to have scope at some point to evaluate risk for rebleeding
   as he will need anticoagulation
   - PPI
   - F/u Hcts [**Hospital1 **]
   #Renal insufficiency
   -Improved
   -Volume status as long as BP tolerates will continue diuresis as he was
   16L positive over his course
   # GI- tube feeds at goal.
   #FEN-Replete lytes correct Phos.
   #: Fever- send Cx for IJ and aline.
   Lines: RIJ (day 3), Left aline (day 3).
   Family: Son is [**Name (NI) 2193**].
   Dispo: Full code.  MICU.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-23**] 12:23 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2162-5-19**] 08:53 PM
   Multi Lumen - [**2162-5-19**] 10:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2162-05-24 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2162-5-23**] 09:54 AM
   [**5-23**]
   - extubated, intially very tachypneic, but then settled and did well
   - menatal status improved
   - NGt placed
   - changed from hep gtt to lovenox
   - diuresed on lasic gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2162-5-21**] 12:00 PM
   Metronidazole - [**2162-5-23**] 10:00 PM
   Vancomycin - [**2162-5-24**] 02:11 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-24**] 04:50 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2162-5-23**] 11:10 AM
   Pantoprazole (Protonix) - [**2162-5-23**] 08:00 PM
   Enoxaparin (Lovenox) - [**2162-5-23**] 11:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-24**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 119 (104 - 130) bpm
   BP: 122/68(85) {97/60(74) - 172/96(122)} mmHg
   RR: 24 (19 - 45) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 6 (2 - 13)mmHg
   Total In:
                                                                  3,050 mL
                                                                    817 mL
   PO:
   TF:
                                                                  1,057 mL
                                                                    538 mL
   IVF:
                                                                  1,693 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  4,300 mL
                                                                  1,290 mL
   Urine:
                                                                  4,300 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,250 mL
                                                                   -473 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 405 (405 - 405) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 0 cmH2O
   FiO2: 70%
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: 7.49/36/119/32/5
   Ve: 13.6 L/min
   PaO2 / FiO2: 170
   Physical Examination
   GEN:  intubated, sedated, not responding when sedation held- ? raising
   eyebrows when asked to open his eyers
   HEENT: no JVD, PERRLA, left IJ w/o erythema or purulence
   RESP: CTAB anteriorly
   CVS: RRR, nl S1-S2, no MRG
   ABD: +BS, soft/NT/ND, no HSM
   EXT: 3+ edema bilaterally, improving, left a-line clean w/o erythema or
   purulence
   Labs / Radiology
   351 K/uL
   9.3 g/dL
   148 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.0 mEq/L
   14 mg/dL
   101 mEq/L
   138 mEq/L
   28.4 %
   13.6 K/uL
        [image002.jpg]
                             [**2162-5-23**]  04:37 AM
                             [**2162-5-23**]  09:15 AM
                             [**2162-5-23**]  11:04 AM
                             [**2162-5-23**]  11:42 AM
                             [**2162-5-23**]  12:42 PM
                             [**2162-5-23**]  03:20 PM
                             [**2162-5-23**]  06:12 PM
                             [**2162-5-23**]  09:26 PM
                             [**2162-5-24**]  03:53 AM
                             [**2162-5-24**]  03:58 AM
   WBC
   13.6
   Hct
   28.4
   Plt
   351
   Cr
   1.0
   1.0
   TCO2
   33
   34
   32
   28
   34
   31
   32
   28
   Glucose
   127
   148
   Other labs: PT / PTT / INR:12.7/35.6/1.1, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:15/27, Alk Phos / T Bili:92/0.3,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:333
   IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Microbiology: Blood and Urine Cx NGTD
   Sputum:
   [**2162-5-19**] 11:00 am SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2162-5-21**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CHAINS.
         SMEAR REVIEWED; RESULTS CONFIRMED.
      RESPIRATORY CULTURE (Preliminary):
         OROPHARYNGEAL FLORA ABSENT.
         Due to mixed bacterial types ( >= 3 colony types) an abbreviated
         workup will be performed appropriate to the isolates recovered
   from
         this site.
         CITROBACTER FREUNDII COMPLEX.    MODERATE GROWTH.
            This organism may develop resistance to third generation
            cephalosporins during prolonged therapy. Therefore, isolates
   that
            are initially susceptible may become resistant within three to
            four days after initiation of therapy.  For serious
   infections,
            repeat culture and sensitivity testing may therefore be
   warranted
            if third generation cephalosporins were used.
         GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
         STAPH AUREUS COAG +.    SPARSE GROWTH.  PRESUMPTIVE
   IDENTIFICATION.
            DEFINITIVE IDENTIFICATION TO FOLLOW.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                CITROBACTER FREUNDII COMPLEX
                                |
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CIPROFLOXACIN---------     1 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN----------   <=4 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
      GRAM STAIN (Final [**2162-5-21**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
         SMEAR REVIEWED; RESULTS CONFIRMED.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
         CITROBACTER FREUNDII COMPLEX.    MODERATE GROWTH.
            This organism may develop resistance to third generation
            cephalosporins during prolonged therapy. Therefore, isolates
   that
            are initially susceptible may become resistant within three to
            four days after initiation of therapy.  For serious
   infections,
            repeat culture and sensitivity testing may therefore be
   warranted
            if third generation cephalosporins were used.
         GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                CITROBACTER FREUNDII COMPLEX
                                |
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CIPROFLOXACIN---------<=0.25 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN----------   <=4 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   [**2162-5-21**] 12:41 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2162-5-21**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         RARE GROWTH OROPHARYNGEAL FLORA.
         Due to mixed bacterial types ( >= 3 colony types) an abbreviated
         workup will be performed appropriate to the isolates recovered
   from
         this site.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
         GRAM NEGATIVE ROD(S).    RARE GROWTH.
         STAPH AUREUS COAG +.    RARE GROWTH.
   [**2162-5-22**] 3:58 am SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2162-5-22**]):
         [**11-7**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
      RESPIRATORY CULTURE (Preliminary):
         ? OROPHARYNGEAL FLORA ABSENT.
         Due to mixed bacterial types ( >= 3 colony types) an abbreviated
         workup will be performed appropriate to the isolates recovered
   from
         this site.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
         GRAM NEGATIVE ROD #2.    RARE GROWTH.
         STAPH AUREUS COAG +.    RARE GROWTH.
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 PULMONARY EMBOLISM (PE), ACUTE
   67-year-old man w/ EtOH abuse, recent GIB, h/o DVTs, p/w multifocal
   PEs, now septic.
   # Sepsis
 Resolving, now normotensive. Pt spiking fevers, tachycardic,
   and hypotensive several days ago but without elevation in WBC. Has
   bottles blood Cx growing CoNS, sputum growing multiple GNRs, and stool
   C.diff positive. Did have infiltrate on CXR concerning for VAP.
   Currently on Zosyn, and Vanc PO, Flagyl. 3 sputum cx all growing GNRs.
   Still spiking fevers, new cultures growing Coag (+) Staph.
   - cont Zosyn (Day 6), for GNR
   - cont Vanc IV (Day 3) for GPCs
   - cont Flagyl (Day 7), PO Vanc (Day 5) for C.diff
   - f/u all culture data, obtain specation of GNR/GPCs
   - draw cultures through a-line and CVL lines
   - gentle diuresis to keep even
   # Unresponsive: likely related to Versed in the setting of EtOh abuse;
   however did get lyisi is at risk for intracranial hemorrhage. Head CT
   neg for bleed and he is moving all 4 extremities, so suspect this is
   sedation related. This morning, he is more responsive, following
   commands, but still not opening eyes. Now extubated with significantly
   improving mental status.
   - hold any mind-altering medications
   # Hypoxic Resp Failure: Extubated with improving hypoxia.
   - monitor secretions
   # VAP: + sputum, fevers and new infiltrate. Sputum growing GNR/GPCs
   - cont Zosyn/Vanc for 8 day course unless grows pseudomonas
   # PEs - On admission pt w/ borderline BPs and considered not a surgical
   candidate. Progressively developed worsening tachycardia and hypoxia.
   Formal TTE and Cardiology consult --> TPA for lysis on [**5-17**] with
   improvement of HR and SaO2. Repeat TTE yesterday shows continued
   depressed RV function; however, right ventricular abnl is now better
   characterized as limpoma rather than clot. No evidence of bleeding.
   Also s/p IVC filter placement.
   - appreciate cardiology involvement, s/p lysis by TPA
   - cont lovenox to help minimize fluid intake, holding off on coumadin
   pending GI evaluation
   # Edema - Pt w/ increased edema as he has gotten several IVF boluses
   for his Hypotension. Lasix gtt w/ good effect on UOP, although pt still
   getting quite a bit of fluid in.
   - check for obligate Ins, consider changing some meds to PO rather than
   IV
   - cont lasix gtt to keep negative
   # Hypotension - Developed post-lysis w/ TPA. Responsive to IVF.
   Initially thought to be [**2-15**] micro-emboli and expected to improve, but
   now more likely related to underlying infection and fevers. Transiently
   required pressors, but now off.
   - cont to monitor BP closely
   - continue home Florinef
   # Anemia - Likely dilutional considering pt received 4L PRBCs, but in
   setting of lysis and vague h/o GIB. HCT down 32->29. No melena.
   - Guaiac stools
   - recheck HCt
   # Alcohol withdrawal - Significant EtOH history. Should now be out of
   window for withdrawal.
   - daily thiamine / MVI / folate
   - SW consult
   # Recent GIB - Unclear history, ? significant.
   - PPI IV BID
   - GI consulted, no endoscopy now, but will scope prior to discharge
   # Low phos: resolved
   - replete
   - recheck in pm
   - nutrition consult
   # Renal insufficieny - Improved.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-23**] 06:09 PM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2162-5-19**] 08:53 PM
   Multi Lumen - [**2162-5-19**] 10:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2162-05-24 09:30:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Bilateral PE
   HPI: 67 year old alcoholic with recent GIB, hx DVT's presents with
   multifocal PE's.  Recently stopped coumadin for GIB secondary couple
   point Hct drop.  Status post lysis on [**5-17**] and IVC filter placement.
   Concern for RA clot was actually lipomatous hypertrophy.  Course c/b
   VAP with sputum + for GNR (not speciated); volume overload
 lasix gtt,
   Cdiff +.
   24 Hour Events:
   -Post extubation yesterday
   -MS improved
   -NG placed
   -Switched to lovenox
   -Getting diuresis
 INVASIVE VENTILATION - STOP [**2162-5-23**] 09:54 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2162-5-21**] 12:00 PM
   Metronidazole - [**2162-5-23**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-24**] 04:50 AM
   Vancomycin - [**2162-5-24**] 08:20 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2162-5-23**] 11:10 AM
   Enoxaparin (Lovenox) - [**2162-5-23**] 11:25 PM
   Pantoprazole (Protonix) - [**2162-5-24**] 08:01 AM
   Other medications:
   Day # 5 Vanc PO
   Day # 7 Flagy PO
   Day # 3 Vanc IV
   Day#  6 Zosyn IV
   -chlorhex
   -colace
   -thiamine
   -protonix Q12
   -fludrocortisone qday
   -folic acid
   -MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-24**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 117 (110 - 130) bpm
   BP: 119/66(83) {101/61(75) - 172/96(122)} mmHg
   RR: 28 (19 - 45) insp/min
   SpO2: 97%  50% FM
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 4 (2 - 13)mmHg
   Total In:
                                                                  3,050 mL
                                                                  1,021 mL
   PO:
   TF:
                                                                  1,057 mL
                                                                    590 mL
   IVF:
                                                                  1,693 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  4,300 mL
                                                                  1,515 mL
   Urine:
                                                                  4,300 mL
                                                                  1,515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,250 mL
                                                                   -494 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: 7.49/36/119/32/5
   PaO2 / FiO2: 238
   Physical Examination
    GEN:  intubated, sedate, opens eyes to stimulation,  tremor
   decreased
   HEENT: PERRL,  JVD elevated
   RESP:  clear anteriorly sitting in chair unalbe to auscultate
   posteriorly
   CVS: Tachy, no MRG
   ABD: soft, NT/ND
   EXT: +2 bil LE edema improved
   Neuro: awake and responds
   Labs / Radiology: Chest improved RLL infiltrate
   9.3 g/dL
   351 K/uL
   148 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.0 mEq/L
   14 mg/dL
   101 mEq/L
   138 mEq/L
   28.4 %
   13.6 K/uL
        [image002.jpg]
                             [**2162-5-23**]  04:37 AM
                             [**2162-5-23**]  09:15 AM
                             [**2162-5-23**]  11:04 AM
                             [**2162-5-23**]  11:42 AM
                             [**2162-5-23**]  12:42 PM
                             [**2162-5-23**]  03:20 PM
                             [**2162-5-23**]  06:12 PM
                             [**2162-5-23**]  09:26 PM
                             [**2162-5-24**]  03:53 AM
                             [**2162-5-24**]  03:58 AM
   WBC
   13.6
   Hct
   28.4
   Plt
   351
   Cr
   1.0
   1.0
   TCO2
   33
   34
   32
   28
   34
   31
   32
   28
   Glucose
   127
   148
   Other labs: PT / PTT / INR:12.7/35.6/1.1, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:15/27, Alk Phos / T Bili:92/0.3,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:333
   IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Sputum 6^th citrobacter pan [**Doctor Last Name **] and coag + staph
   and others with +Gram neg rods
   Assessment and Plan
   67 year old alcoholic with recent GIB, hx DVT's with multifocal PE's,
   s/p thrombolysis on [**5-17**].
   # Submassive Pulmonary Emboli
   - TPA given
   - On lovenox
   - monitor BP closely will consider levophed if hypotensive
   - s/p  IVC filter
   # MS-improved, will need to focus on nutrional intake now and improving
   cough/ secretion clearance
   #Fevers/VAP/C.Diff
   -Will continue zosyn until final cx return
   -Continue vanc until Screen returns.
   -Continue vanc/flagyl for 2 weeks and 1 week post antibiotics
   #Hypotension-resolved
   -will continue fluorinef for now
   # Alcohol withdrawal-Improved no signs
   - no benzo requirement
   - daily thiamine and MVI
   # Recent GIB:
   - will need to have scope at some point to evaluate risk for rebleeding
   as he will need anticoagulation once acute issues resolved.
   - PPI
   - F/u Hcts [**Hospital1 **]
   #Renal insufficiency
   -Improved
   -Volume status as long as BP tolerates will continue slow diuresis (
   drip vs bolus lasix)
   #FEN-Replete lytes correct Phos
   ICU Care
   Nutrition: Getting tube feeds.
   Glycemic Control:
   Lines:
   Arterial Line - [**2162-5-19**] 08:53 PM  D
c A-line
   Multi Lumen - [**2162-5-19**] 10:35 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU today, OOB to chair
   Total time spent:  35 mins

2162-05-25 07:28:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
 ARTERIAL LINE - STOP [**2162-5-24**] 04:00 PM
   - failed Speech / Swallow --> NPO
   - Lasix gtt changed to Lasix boluses TID for diuresis
   - A-line d/c'd
   - mental status improving
   - Cx growing: {CITROBACTER FREUNDII COMPLEX, AEROMONAS HYDROPHILA,
   STAPH AUREUS COAG +}; Citrobacter pan-sensitive, others pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2162-5-24**] 10:55 PM
   Vancomycin - [**2162-5-25**] 03:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-24**] 08:55 PM
   Enoxaparin (Lovenox) - [**2162-5-25**] 12:12 AM
   Furosemide (Lasix) - [**2162-5-25**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-5-25**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 116 (109 - 123) bpm
   BP: 121/69(82) {97/57(67) - 131/84(91)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 7 (0 - 70)mmHg
   Total In:
                                                                  2,737 mL
                                                                  1,059 mL
   PO:
   TF:
                                                                  1,680 mL
                                                                    516 mL
   IVF:
                                                                    817 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  3,315 mL
                                                                  2,160 mL
   Urine:
                                                                  3,315 mL
                                                                  2,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -578 mL
                                                                 -1,101 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (4L)
   SpO2: 96%
   ABG: ///36/
   Physical Examination
   General Appears comfortable
   HEENT sclera anicteric
   Neck LIJ in place
   Pulm Lungs clear bilaterally
   CV Regular S1 S2 no m/r/g
   Abd Soft +bowel sounds RUQ tender
   Extrem Warm 1+ pitting edema bilaterally, palpable distal pulses
   Neuro Alert and answering appropriately, moving all extremities
   Labs / Radiology
   413 K/uL
   8.7 g/dL
   140 mg/dL
   1.0 mg/dL
   36 mEq/L
   3.6 mEq/L
   15 mg/dL
   101 mEq/L
   141 mEq/L
   26.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2162-5-23**]  09:15 AM
                             [**2162-5-23**]  11:04 AM
                             [**2162-5-23**]  11:42 AM
                             [**2162-5-23**]  12:42 PM
                             [**2162-5-23**]  03:20 PM
                             [**2162-5-23**]  06:12 PM
                             [**2162-5-23**]  09:26 PM
                             [**2162-5-24**]  03:53 AM
                             [**2162-5-24**]  03:58 AM
                             [**2162-5-25**]  02:54 AM
   WBC
   13.6
   10.8
   Hct
   28.4
   26.9
   Plt
   351
   413
   Cr
   1.0
   1.0
   1.0
   TCO2
   34
   32
   28
   34
   31
   32
   28
   Glucose
   127
   148
   140
   Other labs: PT / PTT / INR:12.8/35.8/1.1, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:15/27, Alk Phos / T Bili:92/0.3,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:333
   IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   CXR [**5-23**]
   FINDINGS: As compared to the previous examination, the patient has been
   extubated and the nasogastric tube has been removed. The left-sided
   central
   venous access line is in unchanged position. The size of the cardiac
   silhouette is unchanged. There is a small retrocardiac atelectasis.
   Minimal
   obliteration of the right costophrenic sinus suggests the presence of a
   small
   right-sided pleural effusion. There are no signs suggesting
   overhydration,
   focal parenchymal opacities suggesting pneumonia are not present. The
   hilar
   and mediastinal contours are unchanged.
   Micro (select)
   [**5-21**], [**5-22**] sputum GNR x2, S. aureus
   [**5-19**] sputum C. freundii pan S, aeromonas hydrophila
   [**5-18**] stool C diff positive
   [**5-22**] blood cx NGTD
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 PULMONARY EMBOLISM (PE), ACUTE
   67-year-old man w/ EtOH abuse, recent GIB, h/o DVTs, p/w multifocal
   PEs, now septic.
   # Sepsis
 Resolving, now normotensive. Pt spiking fevers, tachycardic,
   and hypotensive several days ago but without elevation in WBC. Has
   bottles blood Cx growing CoNS, sputum growing multiple GNRs, and stool
   C.diff positive. Did have infiltrate on CXR concerning for VAP.
   Currently on Zosyn, and Vanc PO, Flagyl. 3 sputum cx all growing GNRs.
   Still spiking fevers, new cultures growing Coag (+) Staph.
   - cont Zosyn (Day 6), for GNR
   - cont Vanc IV (Day 3) for GPCs
   - cont Flagyl (Day 7), PO Vanc (Day 5) for C.diff
   - f/u all culture data, obtain specation of GNR/GPCs
   - draw cultures through a-line and CVL lines
   - gentle diuresis to keep even
   # Unresponsive: likely related to Versed in the setting of EtOh abuse;
   however did get lyisi is at risk for intracranial hemorrhage. Head CT
   neg for bleed and he is moving all 4 extremities, so suspect this is
   sedation related. This morning, he is more responsive, following
   commands, but still not opening eyes. Now extubated with significantly
   improving mental status.
   - hold any mind-altering medications
   # Hypoxic Resp Failure: Extubated with improving hypoxia.
   - monitor secretions
   # VAP: + sputum, fevers and new infiltrate. Sputum growing GNR/GPCs
   - cont Zosyn/Vanc for 8 day course unless grows pseudomonas
   # PEs - On admission pt w/ borderline BPs and considered not a surgical
   candidate. Progressively developed worsening tachycardia and hypoxia.
   Formal TTE and Cardiology consult --> TPA for lysis on [**5-17**] with
   improvement of HR and SaO2. Repeat TTE yesterday shows continued
   depressed RV function; however, right ventricular abnl is now better
   characterized as limpoma rather than clot. No evidence of bleeding.
   Also s/p IVC filter placement.
   - appreciate cardiology involvement, s/p lysis by TPA
   - cont lovenox to help minimize fluid intake, holding off on coumadin
   pending GI evaluation
   # Edema - Pt w/ increased edema as he has gotten several IVF boluses
   for his Hypotension. Lasix gtt w/ good effect on UOP, although pt still
   getting quite a bit of fluid in.
   - check for obligate Ins, consider changing some meds to PO rather than
   IV
   - cont lasix gtt to keep negative
   # Hypotension - Developed post-lysis w/ TPA. Responsive to IVF.
   Initially thought to be [**2-15**] micro-emboli and expected to improve, but
   now more likely related to underlying infection and fevers. Transiently
   required pressors, but now off.
   - cont to monitor BP closely
   - continue home Florinef
   # Anemia - Likely dilutional considering pt received 4L PRBCs, but in
   setting of lysis and vague h/o GIB. HCT down 32->29. No melena.
   - Guaiac stools
   - recheck HCt
   # Alcohol withdrawal - Significant EtOH history. Should now be out of
   window for withdrawal.
   - daily thiamine / MVI / folate
   - SW consult
   # Recent GIB - Unclear history, ? significant.
   - PPI IV BID
   - GI consulted, no endoscopy now, but will scope prior to discharge
   # Low phos: resolved
   - replete
   - recheck in pm
   - nutrition consult
   # Renal insufficieny - Improved.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-24**] 10:35 PM 70 mL/hour
   Glycemic Control:  Comments: humalog sliding scale
   Lines:
   Multi Lumen - [**2162-5-19**] 10:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to floor

2162-05-25 10:16:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Bilateral PE
   HPI: 67 year old alcoholic with recent GIB, hx DVT's presents with
   multifocal PE's.  Recently stopped coumadin for GIB secondary couple
   point Hct drop.  Status post lysis on [**5-17**] and IVC filter placement.
   Concern for RA clot was actually lipomatous hypertrophy.  Course c/b
   VAP with sputum + for GNR Citrobacter and staph; volume overload
 lasix
   bolus, Cdiff +.
   24 Hour Events:
   Failed speech and swallow on tube feeds
 ARTERIAL LINE - STOP [**2162-5-24**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2162-5-24**] 10:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-25**] 04:00 AM
   Vancomycin - [**2162-5-25**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2162-5-25**] 12:12 AM
   Pantoprazole (Protonix) - [**2162-5-25**] 08:00 AM
   Furosemide (Lasix) - [**2162-5-25**] 08:00 AM
   Other medications:
   Day # 6 Vanc PO
   Day # 8 Flagy PO
   Day # 4 Vanc IV
   Day#  7 Zosyn IV
   -chlorhex
   -colace
   -thiamine
   -protonix Q12
   -fludrocortisone qday
   -folic acid
   -MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-25**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 119 (109 - 123) bpm
   BP: 124/74(86) {97/57(67) - 133/84(93)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 96% 4L
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 18 (0 - 70)mmHg
   Total In:
                                                                  2,737 mL
                                                                  1,561 mL
   PO:
   TF:
                                                                  1,680 mL
                                                                    719 mL
   IVF:
                                                                    817 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  3,315 mL
                                                                  3,060 mL
   Urine:
                                                                  3,315 mL
                                                                  2,910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -578 mL
                                                                 -1,499 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///36/
   Physical Examination
   GEN:  intubated, sedate, opens eyes to stimulation,  tremor decreased
   HEENT: PERRL,  JVD elevated
   RESP:  clear anteriorly sitting in chair unalbe to auscultate
   posteriorly
   CVS: Tachy, no MRG
   ABD: soft, NT/ND
   EXT: +2 bil LE edema improved
   Neuro: awake and responds
   Labs / Radiology:
   8.7 g/dL
   413 K/uL
   140 mg/dL
   1.0 mg/dL
   36 mEq/L
   3.6 mEq/L
   15 mg/dL
   101 mEq/L
   141 mEq/L
   26.9 %
   10.8 K/uL
        [image002.jpg]
                             [**2162-5-23**]  09:15 AM
                             [**2162-5-23**]  11:04 AM
                             [**2162-5-23**]  11:42 AM
                             [**2162-5-23**]  12:42 PM
                             [**2162-5-23**]  03:20 PM
                             [**2162-5-23**]  06:12 PM
                             [**2162-5-23**]  09:26 PM
                             [**2162-5-24**]  03:53 AM
                             [**2162-5-24**]  03:58 AM
                             [**2162-5-25**]  02:54 AM
   WBC
   13.6
   10.8
   Hct
   28.4
   26.9
   Plt
   351
   413
   Cr
   1.0
   1.0
   1.0
   TCO2
   34
   32
   28
   34
   31
   32
   28
   Glucose
   127
   148
   140
   Other labs: PT / PTT / INR:12.8/35.8/1.1, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:15/27, Alk Phos / T Bili:92/0.3,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:333
   IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Sputum citrobater and aeromonus (no sensitivities)  Staph [**Doctor Last Name **] pending
   Assessment and Plan
   67 year old alcoholic with recent GIB, hx DVT's with multifocal PE's,
   s/p thrombolysis on [**5-17**].
   # Submassive Pulmonary Emboli
   - TPA given
   - On lovenox
   - s/p  IVC filter
   # MS-improved, will need to focus on nutrional intake now and improving
   cough/ secretion clearance
   #Fevers/VAP/C.Diff
   -Will continue zosyn until final cx return total 8 day gram negative
   coverage
   -Continue vanc until Screen returns total 8 day course
   -Continue vanc  for 2 weeks and 1 week post antibiotics
   #Hypotension-resolved
   -will continue fluorinef for now
   # Alcohol withdrawal-Improved no signs
   - no benzo requirement
   - daily thiamine and MVI
   # Recent GIB:
   - will need to have scope at some point to evaluate risk for rebleeding
   as he will need anticoagulation once acute issues resolved.
   - PPI change to [**Hospital1 **] PO
   - F/u Hcts [**Hospital1 **]
   #Renal insufficiency
   -Improved
   -Volume status as long as BP tolerates will continue slow diuresis
   (bolus lasix)
   #FEN-Replete lytes correct Phos
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-24**] 10:35 PM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2162-5-19**] 10:35 PM will attempt to place 2 peripherals
   and d
c central line
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI [**Last Name (un) 7515**]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : once HR control ( [**Last Name (un) **]) is better, will transition to
   floor
   Total time spent: 25 mins

2162-05-26 07:10:00 Physician Resident Progress Note
Chief Complaint:  Bilateral PEs
   This morning, complains of back pain.  Has been an issue for
20 years
   and he has
 degenerative discs.
   24 Hour Events:
   - Spiked to 101.3 --> pan cultured
   - Tachycardic so d/c'd lasix and bolused 500 cc NS
   - PM hct stable
   - Trazadone for sleep/ aggitation at night (he wanted to get out of
   bed)
   - Percocet started for back pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-25**] 12:00 PM
   Metronidazole - [**2162-5-25**] 04:00 PM
   Vancomycin - [**2162-5-25**] 07:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-25**] 08:00 AM
   Furosemide (Lasix) - [**2162-5-25**] 08:00 AM
   Enoxaparin (Lovenox) - [**2162-5-25**] 12:00 PM
   Other medications:
   Changes to medical and family history:  None.
   Review of systems:  Review of systems is unchanged from admission
   except as noted below
   Flowsheet Data as of  [**2162-5-26**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.4
   HR: 110 (110 - 126) bpm
   BP: 99/64(72) {99/47(63) - 133/85(94)} mmHg
   RR: 22 (18 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 2 (2 - 18)mmHg
   Total In:
                                                                  3,470 mL
                                                                    575 mL
   PO:
   TF:
                                                                  1,689 mL
                                                                    503 mL
   IVF:
                                                                  1,351 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  4,435 mL
                                                                    340 mL
   Urine:
                                                                  4,285 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -965 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General Appears comfortable
   HEENT sclera anicteric
   Neck LIJ in place
   Pulm Lungs clear bilaterally
   CV Regular S1 S2 no m/r/g
   Abd Soft +bowel sounds RUQ tender
   Extrem Warm 1+ pitting edema bilaterally, palpable distal pulses
   Neuro Alert and answering appropriately, moving all extremities
   Labs / Radiology
   500 K/uL
   8.2 g/dL
   124 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.9 mEq/L
   16 mg/dL
   101 mEq/L
   139 mEq/L
   25.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2162-5-23**]  11:42 AM
                             [**2162-5-23**]  12:42 PM
                             [**2162-5-23**]  03:20 PM
                             [**2162-5-23**]  06:12 PM
                             [**2162-5-23**]  09:26 PM
                             [**2162-5-24**]  03:53 AM
                             [**2162-5-24**]  03:58 AM
                             [**2162-5-25**]  02:54 AM
                             [**2162-5-25**]  06:25 PM
                             [**2162-5-26**]  03:40 AM
   WBC
   13.6
   10.8
   11.9
   Hct
   28.4
   26.9
   27.2
   25.9
   Plt
   [**Telephone/Fax (3) 7534**]
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   28
   34
   31
   32
   28
   Glucose
   127
   148
   140
   124
   Other labs: PT / PTT / INR:13.8/38.3/1.2, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:[**11-4**], Alk Phos / T Bili:91/0.4,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:333
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Micro (select):
   MRSA screen ([**5-16**]):  Negative
   Blood ([**5-17**]):  [**2-17**] coag negative staph
   Blood ([**5-18**], [**5-19**]):  Negative
   Blood ([**5-21**], [**5-22**], [**5-25**]):  NGTD
   Stool ([**5-18**]):  C. diff positive
   Sputum ([**5-19**]): C. freundii (pan-sensitive); S, aeromonas hydrophila
   (sparse); staph aureus (no sensitivities sent)
   Sputum ([**5-21**], [**5-22**]):  GNR x2; staph aureus
   Assessment and Plan:  67-year-old man w/ EtOH abuse, recent GIB, h/o
   DVTs, p/w multifocal PEs, now septic.
   # Pulmonary embolism:  On admission pt w/ borderline BPs and considered
   not a surgical candidate. Progressively developed worsening tachycardia
   and hypoxia. Formal TTE and Cardiology consult --> TPA for lysis on [**5-17**]
   with improvement of HR and SaO2. Repeat TTE [**5-18**]  shows continued
   depressed RV function; however, right ventricular abnl is now better
   characterized as limpoma rather than clot. No evidence of bleeding.
   Also s/p IVC filter placement. Blood pressure recently stable.
   - Appreciate cardiology involvement, s/p lysis by TPA
   - Continue lovenox to help minimize fluid intake, holding off on
   coumadin pending GI evaluation
   # Ventilator associated pneumonia:  Clinically improved without
   significant fever or sputum in the last day. Sputum growing
   Citrobacter, Aeromonas, and vancomycin
   - Continue Zosyn (D1: [**5-19**])
   - Continue vancomycin (D1: [**5-21**])
   - Plan for 8 days of antibiotics; awaiting final sensitivities before
   pealing off meds
   # Edema: Total body overloaded in the setting of IVF resuscitation for
   his hypotension.
   - Continue IV lasix boluses goal -1 to 2L negative
   # Anemia:  Hct trending down, without any evidence of gross bleeding
   here. Of note, he does have a history of GIB and is s/p thrombolysis
   and on LMWH. Macrocytosis likely secondary to liver disease, but
   consider also b12 deficiency.
   - Follow Hct [**Hospital1 7**]
   - Continue PPI [**Hospital1 **]; change to oral
   - Maintain active T+S, transfuse hct>25
   - Place two PIV; once in, can d/c CVL once PIV in
   - GI to perform EGD and colonoscopy on floor
   - Check iron panel, folate, b12
   # C. diff colitis:  Clinically improved, has been treated with both PO
   vancomycin and metronidazole.
   - Complete 10d course of PO vancomycin following completion of Zosyn
   for HAP
   - Discontinue PO metronidazole
   # Alcohol withdrawal: Significant EtOH history. Should now be out of
   window for withdrawal and was loaded up front.
   - Daily thiamine / MVI / folate
   - SW consult
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-24**] 10:35 PM 70 mL/hour
   Glycemic Control: HISS
   Lines:
   Multi Lumen - [**2162-5-19**] 10:35 PM --- DC central line today
   Has foley
   Prophylaxis:
   DVT:  LMWH Heparin
   Stress ulcer:  Oral PPI
   VAP:  n/a
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status:  Full code
   Disposition: Transfer to floor

2162-05-26 07:55:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   - spiked to 101.3 --> pan cultured
   - tachycardic so d/c'd lasix and bolused 500 cc NS
   - pm hct stable
   - trazadone for sleep/ aggitation at night (he wanted to get out of
   bed)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-25**] 12:00 PM
   Metronidazole - [**2162-5-25**] 04:00 PM
   Vancomycin - [**2162-5-25**] 07:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-5-25**] 08:00 AM
   Furosemide (Lasix) - [**2162-5-25**] 08:00 AM
   Enoxaparin (Lovenox) - [**2162-5-25**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-5-26**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.4
   HR: 108 (108 - 126) bpm
   BP: 105/58(70) {99/47(63) - 133/85(94)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 2 (2 - 18)mmHg
   Total In:
                                                                  3,470 mL
                                                                    632 mL
   PO:
   TF:
                                                                  1,689 mL
                                                                    553 mL
   IVF:
                                                                  1,351 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  4,435 mL
                                                                    380 mL
   Urine:
                                                                  4,285 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -965 mL
                                                                    252 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   Appears comfortable
   Pupils anicteric, MMM
   Tachy regular S1 S2 no m/r/g
   Lungs clear bilaterally no rales or wheezing
   Abd soft nontender +bowel sounds
   Extrem Warm palpable distal pulses decreased LE edema
   Labs / Radiology
   500 K/uL
   8.2 g/dL
   124 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.9 mEq/L
   16 mg/dL
   101 mEq/L
   139 mEq/L
   25.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2162-5-23**]  11:42 AM
                             [**2162-5-23**]  12:42 PM
                             [**2162-5-23**]  03:20 PM
                             [**2162-5-23**]  06:12 PM
                             [**2162-5-23**]  09:26 PM
                             [**2162-5-24**]  03:53 AM
                             [**2162-5-24**]  03:58 AM
                             [**2162-5-25**]  02:54 AM
                             [**2162-5-25**]  06:25 PM
                             [**2162-5-26**]  03:40 AM
   WBC
   13.6
   10.8
   11.9
   Hct
   28.4
   26.9
   27.2
   25.9
   Plt
   [**Telephone/Fax (3) 7534**]
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   28
   34
   31
   32
   28
   Glucose
   127
   148
   140
   124
   Other labs: PT / PTT / INR:13.8/38.3/1.2, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:[**11-4**], Alk Phos / T Bili:91/0.4,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:333
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Micro (select):
   MRSA screen ([**5-16**]):  Negative
   Blood ([**5-17**]):  [**2-17**] coag negative staph
   Blood ([**5-18**], [**5-19**]):  Negative
   Blood ([**5-21**], [**5-22**], [**5-25**]):  NGTD
   Stool ([**5-18**]):  C. diff positive
   Sputum ([**5-19**]): C. freundii (pan-sensitive); S, aeromonas hydrophila
   (sparse though sensitive in discussion with lab); staph aureus
   (sensitivities pending)
   Sputum ([**5-21**], [**5-22**]):  GNR x2; staph aureus
   Assessment and Plan:  67-year-old man w/ EtOH abuse, recent GIB, h/o
   DVTs, p/w multifocal PEs, now septic.
   # Fevers
   Pt currently being treated for VAP, with sputum cultures growing
   Citrobacter, aeromonas, and S. aureus (sensitivites on the latter two
   organisms are pending). CXR not worsening and O2 requirement stable
   arguing against progression of pna. Consider also line infection, UTI,
   drug fever, clot/PE. Of note, PO vancomycin discontinued yesterday for
   C diff though he continues on PO flagyl. Back pain c/w prior at home
   but also consider possibility of spinal osteo.
   - Follow up pending urine and blood cultures, repeat cultures if
   febrile
   - DC foley and central line
   - Call lab for sensitivities on aeromonas and staph
   - Consider L spine MRI though back pain is chronic
   # Tachycardia
   Likely multifactorial, pt with recent large PE and infection
   - Follow on telemetry, treating infection and PE
   # Pulmonary embolism:  On admission pt w/ borderline BPs and considered
   not a surgical candidate. Progressively developed worsening tachycardia
   and hypoxia. Formal TTE and Cardiology consult --> TPA for lysis on [**5-17**]
   with improvement of HR and SaO2. Repeat TTE [**5-18**]  shows continued
   depressed RV function; however, right ventricular abnl is now better
   characterized as limpoma rather than clot. No evidence of bleeding.
   Also s/p IVC filter placement. Blood pressure recently stable.
   - Appreciate cardiology involvement, s/p lysis by TPA
   - Continue lovenox to help minimize fluid intake, holding off on
   coumadin pending GI evaluation
   # Ventilator associated pneumonia:  Clinically improved. Sputum growing
   Citrobacter, Aeromonas, staph aureus.
   - Continue Zosyn (D1: [**5-19**])
   - Continue vancomycin (D1: [**5-21**])
   - Plan for 8 days of antibiotics; awaiting final sensitivities before
   pealing off meds
   # Edema: Total body overloaded in the setting of IVF resuscitation for
   his hypotension.
   - Will hold off on further diuresis today
   # Anemia:  Hct trending down, without any evidence of gross bleeding
   here. Of note, he does have a history of GIB and is s/p thrombolysis
   and on LMWH. Macrocytosis likely secondary to liver disease, but
   consider also b12 deficiency.
   - Follow daily hct
   - Continue PPI [**Hospital1 7**]
   - Maintain active T+S, transfuse hct>25
   - Place two PIV; once in, can d/c CVL
   - GI to perform EGD and colonoscopy on floor
   - Repeat iron studies as outpatient
   # C. diff colitis:  Clinically improved, has been treated with both PO
   vancomycin.
   - Complete 14d course of PO flagyl  following completion of VAP
   antibiotics
   # Alcohol withdrawal: Significant EtOH history. Should now be out of
   window for withdrawal and was loaded up front.
   - Daily thiamine / MVI / folate
   - SW consult ([**5-26**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-26**] 02:59 AM 70 mL/hour
   Comments: humalog sliding scale
   Glycemic Control:
   Lines:
   Multi Lumen - [**2162-5-19**] 10:35 PM
   18 Gauge - [**2162-5-25**] 10:59 AM
   20 Gauge - [**2162-5-25**] 12:46 PM
   Comments: DC central line
   Prophylaxis:
   DVT: LMWH Heparin)
   Stress ulcer: PPI [**Hospital1 7**]
   VAP: n/a (has VAP)
   Communication: Patient discussed on interdisciplinary rounds
   Code status: Full code
   Disposition: ICU

2162-05-26 08:08:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Bilateral PE
   HPI: 67 year old alcoholic with recent GIB, hx DVT's presents with
   multifocal PE's.  Recently stopped coumadin for GIB secondary couple
   point Hct drop.  Status post lysis on [**5-17**] and IVC filter placement.
   Concern for RA clot was actually lipomatous hypertrophy.  Course c/b
   VAP with sputum + for GNR Citrobacter and staph; volume overload
 lasix
   bolus, Cdiff +.
   24 Hour Events:
   Continues to report back pain old
   Pan cx for fever
   lasix dc
d for tachy and responded to fluid percocet
 FEVER - 101.3
F - [**2162-5-25**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2162-5-25**] 12:00 PM
   Metronidazole - [**2162-5-25**] 04:00 PM
   Vancomycin - [**2162-5-25**] 07:45 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2162-5-25**] 12:00 PM
   Other medications:
   Day # 9 Flagy PO
   Day # 5 Vanc IV
   Day#  8 Zosyn IV
   -chlorhex
   -colace
   -thiamine
   -lansoprazole Qday
   -fludrocortisone qday
   -folic acid
   -MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-5-26**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.4
   HR: 108 (108 - 126) bpm
   BP: 105/58(70) {99/47(63) - 133/85(94)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 97% 2L
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 2 (2 - 18)mmHg
   Total In:
                                                                  3,470 mL
                                                                    653 mL
   PO:
   TF:
                                                                  1,689 mL
                                                                    572 mL
   IVF:
                                                                  1,351 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  4,435 mL
                                                                    380 mL
   Urine:
                                                                  4,285 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -965 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   GEN:  intubated, sedate, opens eyes to stimulation,  tremor decreased
   HEENT: PERRL,  JVD elevated
   RESP:  clear anteriorly sitting in chair unalbe to auscultate
   posteriorly
   CVS: Tachy, no MRG
   ABD: soft, NT/ND
   EXT: +2 bil LE edema improved
   Neuro: awake and responds
   Labs / Radiology:small right effusion
   8.2 g/dL
   500 K/uL
   124 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.9 mEq/L
   16 mg/dL
   101 mEq/L
   139 mEq/L
   25.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2162-5-23**]  11:42 AM
                             [**2162-5-23**]  12:42 PM
                             [**2162-5-23**]  03:20 PM
                             [**2162-5-23**]  06:12 PM
                             [**2162-5-23**]  09:26 PM
                             [**2162-5-24**]  03:53 AM
                             [**2162-5-24**]  03:58 AM
                             [**2162-5-25**]  02:54 AM
                             [**2162-5-25**]  06:25 PM
                             [**2162-5-26**]  03:40 AM
   WBC
   13.6
   10.8
   11.9
   Hct
   28.4
   26.9
   27.2
   25.9
   Plt
   [**Telephone/Fax (3) 7534**]
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   28
   34
   31
   32
   28
   Glucose
   127
   148
   140
   124
   Other labs: PT / PTT / INR:13.8/38.3/1.2, CK / CKMB /
   Troponin-T:36/4/0.03, ALT / AST:[**11-4**], Alk Phos / T Bili:91/0.4,
   Differential-Neuts:81.4 %, Lymph:12.6 %, Mono:3.3 %, Eos:2.4 %,
   Fibrinogen:209 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:333
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Micro-C.Diff 5^th, sputum unchanged, Staph sparse growth.
   Blood cx pending
   Assessment and Plan
   67 year old alcoholic with recent GIB, hx DVT's with multifocal PE's,
   s/p thrombolysis on [**5-17**].
   # Submassive Pulmonary Emboli
   - TPA given
   - On lovenox
   - s/p  IVC filter
   # MS-improved, will need to focus on nutrional intake now and improving
   cough/ secretion clearance
   #Fevers/VAP/C.Diff
   -Will d
c zosyn after  8 day course completed for gram negative
   coverage
   -Continue vanc until Screen returns total 8 day course check level
   -Continue vanc PO  for 2 weeks and 1 week post antibiotics
   -D
c central line
   -Check for decubitous ulcers
   #Hypotension-resolved but now with tachycardia and low grade fever
   -will continue fluorinef for now
   # Alcohol withdrawal-Improved no signs
   - no benzo requirement
   - daily thiamine and MVI
   # Recent GIB:
   - will need to have scope at some point to evaluate risk for rebleeding
   as he will need anticoagulation once acute issues resolved.
   - PPI change to [**Hospital1 **] PO
   - F/u Hcts [**Hospital1 **]
   #Renal insufficiency
   -Improved
   -Volume status as long as BP tolerates will continue slow diuresis
   (bolus lasix)
   #FEN-Replete lytes correct Phos
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2162-5-26**] 02:59 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2162-5-19**] 10:35 PM
   18 Gauge - [**2162-5-25**] 10:59 AM
   20 Gauge - [**2162-5-25**] 12:46 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Floor but follow closely for sepsis ( catheter related)
   given tachycardia and no other new source
   Total time spent: 25 mins